2168-08-06 08:24:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
    57 yo M with history of diabetes and [**Hospital **] transferred from OSH after
   prolonged stay at OSH with course c/b fevers of unclear origin, acute
   renal failure, progressive respiratory failure leading to trach
   placement, delirium.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2168-8-6**] 02:45 AM
 EKG - At [**2168-8-6**] 03:06 AM
 PAN CULTURE - At [**2168-8-6**] 03:06 AM
 PICC LINE - START [**2168-8-6**] 03:38 AM
   triple lumen power PICC
 FEVER - 101.8
F - [**2168-8-6**] 03:24 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-8-6**] 06:30 AM
   Infusions:
   Other ICU medications:
   Diltiazem - [**2168-8-6**] 06:30 AM
   Other medications:
   Vitamin D
   Lansoprazole
   Calcium
   Ipratroprium QID
   Diltiazem
   Heparin DVT
   Fentanyl patch
   Insulin sliding scale
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-6**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.2
C (98.9
   HR: 101 (92 - 105) bpm
   BP: 154/78(95) {134/59(80) - 160/79(95)} mmHg
   RR: 26 (18 - 26) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             2,407 mL
   PO:
             TF:
   IVF:
   416 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                  4,050 mL
   Urine:
   1,055 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                 -1,643 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 657 (657 - 666) mL
   PS : 12 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.43/35/91/20/0
   Ve: 13.2 L/min
   PaO2 / FiO2: 182
   Physical Examination
   HEENT- eomi, perrl
   Lungs
 diffuse rhonchi and expiratory squeaks
   Abdomen
 obese, soft NT, G-tube in place
   Trace edema, warm extremities
   Labs / Radiology
   10.4 g/dL
   426 K/uL
   198 mg/dL
   1.4 mg/dL
   20 mEq/L
   4.2 mEq/L
   30 mg/dL
   115 mEq/L
   147 mEq/L
   33.5 %
   10.6 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
   WBC
   10.6
   Hct
   33.5
   Plt
   426
   Cr
   1.4
   TCO2
   24
   Glucose
   198
   Other labs: PT / PTT / INR:14.6/23.6/1.3, ALT / AST:19/40, Alk Phos / T
   Bili:291/1.2, Differential-Neuts:67.9 %, Lymph:24.3 %, Mono:3.9 %,
   Eos:3.4 %, Lactic Acid:1.1 mmol/L, Albumin:2.9 g/dL, LDH:616 IU/L,
   Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   CXR
 low lung volumes, large cardiac sillouette, unable to visualize
   left hemidiaphragm, possible left sided pleural effusion
   Assessment and Plan
 Resp failure
 suspect multifactorial, underlying obesity, volume
   overload from exam, malacia; currently tolerating [**5-17**] and does not
   appear to have pronounced leak from trach. SBT was unsuccessful in [**5-17**]
 became tachy and tachypneic.  trach cuff pressures very high.
   - needs trach change
 will consult IP
   - ? diuresis although hypernatremic
   Delirium: prolonged course, infectious vs ?noninfectious etiologies.
   Review OSH head imaging and records; limited exam but appears nonfocal,
   treat underlying issues (eg hypernatremia, fever), avoid sedating meds.
   Blood, urine, sputum cx pending.
   - outside records to evaluate prior work up. Mental status appears to
   improve when wife is present.
   - prior head imaging reportedly normal
   - ?eeg
   - zosyn for UTI (day [**4-19**])
   Fevers: extensive workup, unfortunately much not available; obtain
   records from [**Hospital1 25**] and [**Hospital1 959**], Complete Zosyn course for presumed
   sepsis / UTI. Possible noninfectious etiologies include malignancy,
   collagen vascular disease
   - [**Doctor First Name **], ESR, CRP
   - find out if ANCA and anti-GBM done at [**Hospital1 959**] (although if CVD renal
   disease, would not expect this kind of improvement without
   intervention)
   - TTE to eval valves can be repeated today
   Renal Failure
 substantially better creatinine than reported baseline.
   Acute renal failure at OSH could have been due to NSAID use
 other
   etiologies are less likely given improvement without intervention aside
   from 1 episode of dialysis
   Nutrition
 verify placement of Gtube
 consider IR placement of
   permanent peg rather than foley
   RIJ line thrombus
 occurred several months ago at [**Hospital1 959**]
   anticoagulated with coumadin, but INR is subtherapeutic. Report of
   argatroban vs. heparin gtt
 restart heparin gtt for now
   Hypernatremia
 free water bolus via gtube once placement is verified,
   getting D5
 NS overnight
   Full Code
   ICU Care
   Nutrition:
   Glycemic Control:  sliding scale
   Lines:  right sided power picc
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin subcut
   Stress ulcer: ppi
   VAP: HOB @ 30 degrees with oral care
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition : ICU
   Pt is critically ill.
   Total time spent: 35 minutes

2168-08-07 08:16:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2168-8-6**] 02:17 PM
 EF 55% no obvious
   endocarditis
   Trach was changed from 7->8 no longer has cuff leak
   ESR
 126
   CRP- 111
   Autodiuresed 2L
   Heparin gtt started for history of UE DVT
   Zosyn switched to CTX
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-8-6**] 06:30 AM
   Ceftriaxone - [**2168-8-6**] 02:18 PM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-8-6**] 02:19 PM
   Haloperidol (Haldol) - [**2168-8-7**] 12:00 AM
   Lorazepam (Ativan) - [**2168-8-7**] 12:45 AM
   Diltiazem - [**2168-8-7**] 01:17 AM
   Heparin Sodium - [**2168-8-7**] 04:39 AM
   Other medications:
   Ppi
   Calcium
   Vitamin D
   Albuterol
   CTX
   Insulin sliding scale
   Heparin gtt
   Diltiazem
   Free water boluses
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-7**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 121 (96 - 130) bpm
   BP: 133/71(83) {128/51(69) - 172/81(103)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122.1 kg (admission): 123 kg
             Total In:
                                                                  5,397 mL
                                                                    929 mL
   PO:
             TF:
                                                                     53 mL
                                                                    270 mL
   IVF:
                                                                  2,493 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  7,375 mL
                                                                  2,285 mL
   Urine:
                                                                  4,380 mL
                                                                  2,285 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,978 mL
                                                                 -1,356 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 629 (561 - 729) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 15 L/min
   Physical Examination
   Appropriate, answering yes/no questions
   NAD
   EOMI, PERRL, anicteric
   Distant heart sounds, no murmur
   Exp wheezes, occ rhonchi
   Trace edema
   Labs / Radiology
   10.2 g/dL
   373 K/uL
   197 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.7 mEq/L
   15 mg/dL
   113 mEq/L
   144 mEq/L
   32.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
   WBC
   10.6
   9.4
   9.4
   Hct
   33.5
   31.4
   32.3
   Plt
   426
   405
   373
   Cr
   1.4
   1.2
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   Other labs: PT / PTT / INR:16.6/53.9/1.5, ALT / AST:18/22, Alk Phos / T
   Bili:257/1.2, Differential-Neuts:68.8 %, Lymph:22.2 %, Mono:3.4 %,
   Eos:5.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:397 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   No CXR today
   Assessment and Plan
   Resp failure
 suspect multifactorial, underlying obesity, volume
   overload from initial exam, malacia; trach changed yesterday with
   resolution of trach leak. Required a bit more pressure support
   overnight.
   - autodiuresing and no longer in renal failure
   - check sputum
   - wean to [**5-17**] today
   - ?malacia per report. Feel that we need to address acute febrile
   illness prior to investigating need for IP involvement
   - continue MDI
   Delirium: prolonged course, infectious vs ?noninfectious etiologies.
   Review OSH head imaging and records; limited exam but appears nonfocal,
   treat underlying issues (eg hypernatremia, fever), avoid sedating meds.
   Blood, urine, sputum cx pending.
   - outside records to evaluate prior work up. Mental status is much more
   appropriate today. Will correct any toxic/metabolic derrangements for
   now
   - prior head imaging reportedly normal
   - treat UTI, but then d/c antibiotics
   Fevers of unclear origin: extensive workup, unfortunately much not
   available; obtain records from [**Hospital1 25**] and [**Hospital1 959**], Complete Zosyn
   course for presumed sepsis / UTI. Possible noninfectious etiologies
   include malignancy, collagen vascular disease less likely given rapid
   resolution of renal failure without intervention.
   - continue infectious work up
   - [**Doctor First Name **], ESR, CRP
 very elevated acute phase reactants, [**Doctor First Name **] pending
   - find out if ANCA and anti-GBM done at [**Hospital1 959**] (although if CVD renal
   disease, would not expect this kind of improvement without
   intervention)
   - TTE with unremarkable valves
   - heme/onc consult tomorrow - ?bone marrow biopsy given FUO and
   elevated LDH and PET results
   Renal Failure
 resolved
   RIJ line thrombus
 occurred several months ago at [**Hospital1 959**]
   anticoagulated with coumadin, but INR is subtherapeutic. Report of
   argatroban vs. heparin gtt
 restarted heparin gtt for now
   Hypernatremia
 free water bolus via gtube once placement is verified,
   getting D5
 NS overnight
   Full Code
   ICU Care
   Nutrition: TF
   Boost Glucose Control (Full) - [**2168-8-6**] 08:30 PM 40 mL/hour
   Glycemic Control:  insulin sliding scale/glargine
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full code
   Disposition : ICU
   Pt is critically ill
   Total time spent: 35 minutes

2168-08-07 09:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2168-8-6**] 02:17 PM
   .
   -trach changed from size 7 to 8
   -KUB with gastrografin study for G-tube placement
   -sent off autoimmune labs, ESR/CRP
   -echo done, EF >55% poor study, no obvious abnormalities
   -I/O goal -1L
   -heparin IV started-(h.o UE clot, R.IJ)-had been on coumadin
   -consider head CT for AMS if does not clear
   -pt's wife states pt speaks english.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-8-6**] 06:30 AM
   Ceftriaxone - [**2168-8-6**] 02:18 PM
   Infusions:
   Heparin Sodium - 1,950 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2168-8-6**] 02:19 PM
   Haloperidol (Haldol) - [**2168-8-7**] 12:00 AM
   Lorazepam (Ativan) - [**2168-8-7**] 12:45 AM
   Diltiazem - [**2168-8-7**] 01:17 AM
   Heparin Sodium - [**2168-8-7**] 04:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-7**] 09:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100.1
   HR: 110 (96 - 130) bpm
   BP: 151/64(88) {128/51(69) - 172/81(103)} mmHg
   RR: 18 (14 - 24) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122.1 kg (admission): 123 kg
             Total In:
                                                                  5,397 mL
                                                                  1,041 mL
   PO:
             TF:
                                                                     53 mL
                                                                    310 mL
   IVF:
                                                                  2,493 mL
                                                                    381 mL
   Blood products:
   Total out:
                                                                  7,375 mL
                                                                  2,435 mL
   Urine:
                                                                  4,380 mL
                                                                  2,435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,978 mL
                                                                 -1,392 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 629 (561 - 729) mL
   PS : 10 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 45
   PIP: 16 cmH2O
   SpO2: 99%
   ABG: ///20/
   Ve: 15 L/min
   Physical Examination
   Physical exam:
   VS: HR 95, BP 153/59, RR 21, 97% on PS 5/5 50%
   Gen: trached
   HEENT: PERRL, trach present
   CV: difficult to auscultate due to coarse breath sounds
   Pulm: coarse breath sounds diffusely
   Abd: obese, soft, NT, + g-tube
   Ext: no periphearl edema
   Labs / Radiology
   373 K/uL
   10.2 g/dL
   197 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.7 mEq/L
   15 mg/dL
   113 mEq/L
   144 mEq/L
   32.3 %
   9.4 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
   WBC
   10.6
   9.4
   9.4
   Hct
   33.5
   31.4
   32.3
   Plt
   426
   405
   373
   Cr
   1.4
   1.2
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   Other labs: PT / PTT / INR:16.6/53.9/1.5, ALT / AST:18/22, Alk Phos / T
   Bili:257/1.2, Differential-Neuts:68.8 %, Lymph:22.2 %, Mono:3.4 %,
   Eos:5.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL, LDH:397 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.5 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   .
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure.
   .
   Respiratory failure-recent evidence ot trach leak after changing over
   to size 8. Etiology likely multifactoral given recent PNA, failure to
   wean. Pt has been on PSV or 16hrs daily at rehab. Currently on PSV.
   Will cover with ctx for uti as well as PNA.
   -nebs
   -wean settings as tol
   -chest PT/suctioning.
   -consider IP eval for ?tracheomalacia.
   .
    Delerium.  Patient has ongoing daily fevers concerning for infection
   as well as prolonged hospital course as etiology of delerium.  Will
   need to review OSH records regarding prior workup.
   - review OSH head imaging; reportedly normal
   - haldol prn agitation
   - avoid sedating medications
   - infectious workup
   - continue ctx for UTI
   - consider EEG, neuro consult,
   -correct underlying causes
   -
     Fever. U.o- Patient has had reportedly extensive fever workup
   including PET scan.  Patient has been treated for PNA, UTI with various
   antibiotic courses.  Elevated LDH concerning for malignancy.  Patient
   never underwent bone marrow biopsy.
   - obtain OSH records
   - continue zosyn day 4 of 7 for UTI, though urine culture was negative
   at OSH
   - blood, urine, sputum, c. diff
   - consider ID consult pending obtaining OSH records
   -consider hemoonc c/s for BM bx in am.
   .
   ARF.  Patient with improving renal failure.  Initial insult thought to
   be NSAID use.  Patient is s/p one day of HD 2 months ago.
   - avoid nephrotixins
   - IVFs
   - follow Cr and renall dose all meds
   - obtain OSH records re: prior renal function
   -currently doing well.
   .
   DM-glargine and HISS
   .
    Anemia.
   - anemia studies
   .
     Sciatica.  Patient has severe sciatica.
   - initated fentanyl patch
   .
   Thrombus.  Known to have RIJ thrombus.
   - obtain osh recors
   - heparin IV.
   .
   FULL CODE
   PPx: HSQ, bowel regimen
   CODE: FULL
   COMM: wife
   .
   .
   ICU Care
   Nutrition: G-tube feedings, called for nutrition recs.
   Boost Glucose Control (Full) - [**2168-8-6**] 08:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: hep IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition: ICU

2168-08-08 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fevers
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2168-8-7**] 02:25 PM
 SPUTUM CULTURE - At [**2168-8-7**] 05:52 PM
   [**8-7**]
   - on trach mask, did well but was not comfortable, still stayed on it
   all night without problems
   - MRSA grew from sputum at OSH
   - CXR showed no change from yesterday
   - mental status ok
   - added on SPEP/UPEP
   - changed tube feeds re: nutrition recs
   - uptitrated dilt to 90 mg qid for HRs in 110s-120s
   - increased insulin sliding scale for FS in mid 200s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-8-6**] 06:30 AM
   Ceftriaxone - [**2168-8-7**] 01:00 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-7**] 09:49 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-8**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 111 (102 - 121) bpm
   BP: 140/74(91) {133/64(83) - 169/8,382(104)} mmHg
   RR: 31 (18 - 34) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 122.1 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,463 mL
                                                                    586 mL
   PO:
             TF:
                                                                    910 mL
                                                                    389 mL
   IVF:
                                                                  1,043 mL
                                                                    197 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    840 mL
   Urine:
                                                                  4,250 mL
                                                                    840 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,787 mL
                                                                   -254 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 752 (525 - 752) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 14.8 L/min
   Physical Examination
   Gen: trached
   HEENT: PERRL, trach present
   CV: difficult to auscultate due to coarse breath sounds
   Pulm: coarse breath sounds diffusely
   Abd: obese, soft, NT, + g-tube
   Ext: no periphearl edema
   Labs / Radiology
   406 K/uL
   10.7 g/dL
   217 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   11 mg/dL
   110 mEq/L
   144 mEq/L
   33.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   Hct
   33.5
   31.4
   32.3
   33.3
   Plt
   426
   405
   373
   406
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   Other labs: PT / PTT / INR:16.8/150.0/1.5, ALT / AST:19/24, Alk Phos /
   T Bili:338/1.1, Differential-Neuts:70.1 %, Lymph:21.4 %, Mono:3.3 %,
   Eos:4.7 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:367 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure.
   .
   Respiratory failure- patient had trach changed and was able to tolerate
   trach mask all day yesterday, although patient seems to feel
   subjectively uncomfortable.
   -continue trach mask as tolerated
   -chest PT/suctioning.
   -consider IP eval for ?tracheomalacia.
   -trial of PMV did not work well for patient, had very high tracheal
   pressures in the 30 mmH2O; possibly secondary to some TBM, continue to
   monitor on trach mask today
   .
    Delerium.  Patient has ongoing daily fevers concerning for infection
   as well as prolonged hospital course as etiology of delerium.  Will
   need to review OSH records regarding prior workup.
   - review OSH head imaging; reportedly normal
   - haldol prn agitation
 not requiring any
   -mental status seems appropriate, workup as below, continue to monitor
   and avoid sedation meds; may have been secondary to hypoxia or
   secondary to infection or ICU delerium
     Fever. U.o- Patient has had reportedly extensive fever workup
   including PET scan (radiology now uploaded into PACs).  Patient has
   been treated for PNA, UTI with various antibiotic courses.  Elevated
   LDH concerning for malignancy.  Patient never underwent bone marrow
   biopsy.
   - obtain OSH records
   - continue ceftriaxone for positive UA
   - blood, urine, sputum, c. diff pending from here
   -consider hemoonc c/s for BM bx in future, not urgent, could be done as
   outpatient
   .
   MAT: rates in the 100s-130s, not well controlled on max dilt.  Blood
   pressure always stable
   - cont dilt 90 mg qid
   - will start metoprolol 12.5 mg [**Hospital1 **]
   .
   ARF.  Patient with improving renal failure.  Initial insult thought to
   be NSAID use.  Patient is s/p one day of HD 2 months ago.
   - avoid nephrotixins
   - creatinine normalized, continue to monitor
   .
   DM-glargine and HISS, titrating upward
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
     Sciatica.  Patient has severe sciatica.
   - initated fentanyl patch
   .
   Thrombus.  Known to have RIJ thrombus.
   - obtain osh recors
   - heparin IV.
   - start coumadin today
   .
   FULL CODE
   PPx: HSQ, bowel regimen
   CODE: FULL
   COMM: wife
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-8**] 04:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-08-08 09:56:00 Physician Attending Progress Note
Chief Complaint: delirium, acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo male with DM
   in [**2168-5-13**] after back pain he developed acute renal failure (resolved
   after HD once) and complicated hospital course including ARDS/acute
   resp failure
   In [**Hospital1 25**]: waxing and [**Doctor Last Name 226**] MS [**First Name (Titles) **] [**Last Name (Titles) **]
   Admitted 2 days ago for further evaluation of [**Last Name (Titles) **], delirium, and
   question of TBM (Trach leak)
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2168-8-7**] 02:25 PM
 SPUTUM CULTURE - At [**2168-8-7**] 05:52 PM:
   *TF's adjusted
   *Diltiazem increased for rapid afib
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2168-8-6**] 06:30 AM
   Ceftriaxone - [**2168-8-7**] 01:00 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-7**] 09:49 PM
   Hydralazine - [**2168-8-8**] 08:10 AM
   Other medications:
   lansoprazole, Ca carbonate, atrovent, fentanyl patch, SSI, free water
   boluses, diltiazem 90 mg QID
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-8**] 09:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.2
C (99
   HR: 118 (102 - 136) bpm
   BP: 171/84(102) {133/61(86) - 171/8,382(104)} mmHg
   RR: 32 (19 - 34) insp/min
   SpO2: 92%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122.1 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,463 mL
                                                                    799 mL
   PO:
             TF:
                                                                    910 mL
                                                                    522 mL
   IVF:
                                                                  1,043 mL
                                                                    276 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                  1,165 mL
   Urine:
                                                                  4,250 mL
                                                                  1,165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,787 mL
                                                                   -366 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 752 (752 - 752) mL
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: 7.48/33 (VBG)
   Ve: 14.8 L/min
   Physical Examination
   General Appearance:Overweight male in NAD Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube, +Trach
   Lungs: mostly clear BS anteriorly
   CV: RRR no M/G/R
   Peripheral Vascular: 2+ radial and DP pulses
   Abdominal: PEG, soft, nt +bs
   Skin:  normal turgor
   Neurologic: Responds to: some commands, Movement: purposeful, Tone:
   normal
   Labs / Radiology
   10.7 g/dL
   406 K/uL
   217 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.3 mEq/L
   11 mg/dL
   110 mEq/L
   144 mEq/L
   33.3 %
   11.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   Hct
   33.5
   31.4
   32.3
   33.3
   Plt
   426
   405
   373
   406
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   Other labs: PT / PTT / INR:16.8/150.0/1.5, ALT / AST:19/24, Alk Phos /
   T Bili:338/1.1, Differential-Neuts:70.1 %, Lymph:21.4 %, Mono:3.3 %,
   Eos:4.7 %, Lactic Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:367 IU/L,
   Ca++:9.2 mg/dL, Mg++:1.8 mg/dL, PO4:2.4 mg/dL
   ECG: MAT
   Imaging: CXR (viewed): limited inspiration, left HD not visible
   Assessment and Plan
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Thrombus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   57 yo male with prolonged hospitalization with ARDS/Acute respiratory
   failure, waxing and [**Doctor Last Name 226**] MS, [**Doctor Last Name **]
   1.       Acute respiratory failure s/p PNA/ARDS:
   In rehab had difficulty weaning from AC at rehab and ongoing trach leak
   with concerns for TBM
   Has been  tolerating PSV/TC trial here, since changing trach
   Question of TBM at OSH- as pt now tolerating ventilator wean, will not
   pursue management just yet
   Speech and Swallow eval for PMV
   2.       Acute mental status- seems to be improving- pt able to
   communicate
   3.       [**Doctor Last Name 723**]: ongoing low grade [**Doctor Last Name **] for months-
   f/u SPEP and UPEP
   Complete a 7 day course of abx for UTI
   +MRSA sputum cultures from OSH- potentially colonizer;  in the absence
   of [**Doctor Last Name **] or other evidence of infxn will not treat
   4.       MAT: on high dose of calcium channel blocker, but still
   tachycardic
   Will add low dose beta blocker and f/u HR
   5.       DM: On scheduled insulin and SSI
   6.       right IJ thrombus: receiving anticoagulation on heparin gtt
   7.       Dispo: if pt continues to do well, may be able to return to
   rehab
   Rest of plan per ICU housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-8**] 04:22 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: FULL
   Disposition :ICU
   Total time spent: 30minutes

2168-08-09 07:14:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2168-8-8**] 11:00 PM
   - Patient did not tollerated Passy-Muir valve due to increased airway
   pressures
   - HR improved with initiation of metoprolol; BP remains elevated,
   consider resuming captopril
   - coumadin initiated (as PTT on heparin was therapeutic)
   - rested on vent overnight due to tachypnea, increased work of
   breathing - PS 10/5
   - getting screened for [**Hospital1 25**]
   - Spoke with wife who informs me that patient has been on TCM
   approximately 10-18 hours per day at [**Hospital1 25**], but was getting rested
   at night.  In fact, patient had PMV at [**Hospital1 25**].  A bronch was
   performed at [**Hospital1 25**] by a [**Hospital1 12**] pulmonologist who recommended tracheal
   stent for TBM
   - Medical record release forms faxed to [**Hospital1 959**] and [**Hospital1 25**].  If they
   don't arrive by morning, these forms should be re-faxed.  They were put
   in front of chart.
   - His [**Hospital1 959**] records came in the form of a 1.5 page, one paragraph,
   chronoligical summary of his 1 month hospital stay.  In terms of FUO
   workup, he was treated for PAN several dtimes.  He had a TEE and TTE
   tor/o endocarditis.  He tested negative for flu, q- fever, erlichia.
   An IR guided LP was negative for bacterial or viral meningitis..
   Treatment with doxy failed to improve fevers.  PET scan was performed
   to "definitevly rulo out any infectious source of fever".
   - In terms of his delerium, EEG did not show seizure activity and Head
   CT was negative.  Neuro felt he had ICU delerium and toxic-metabolic
   encephalopathy.
   - With regards to respiratory status, he was unable to be weaned of PSV
   at [**Hospital1 959**].  He failed Trach collar mask.  He was unable to have PS less
   than 8.
   - T max 100.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-8**] 01:31 PM
   Infusions:
   Heparin Sodium - 2,350 units/hour
   Other ICU medications:
   Hydralazine - [**2168-8-8**] 08:10 AM
   Lorazepam (Ativan) - [**2168-8-8**] 07:53 PM
   Heparin Sodium - [**2168-8-8**] 09:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-9**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.5
C (99.5
   HR: 108 (96 - 121) bpm
   BP: 132/81(94) {122/56(75) - 185/84(109)} mmHg
   RR: 22 (19 - 41) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 122.1 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,748 mL
                                                                  1,196 mL
   PO:
             TF:
                                                                  1,536 mL
                                                                    511 mL
   IVF:
                                                                    833 mL
                                                                    255 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    500 mL
   Urine:
                                                                  2,920 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                    696 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (581 - 664) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 12.4 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   415 K/uL
   11.1 g/dL
   244 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   34.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   Plt
   426
   405
   373
   406
   415
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   244
   Other labs: PT / PTT / INR:15.0/58.5/1.3, ALT / AST:26/34, Alk Phos / T
   Bili:361/0.9, Differential-Neuts:67.5 %, Lymph:25.3 %, Mono:2.8 %,
   Eos:3.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:404 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure.
   .
   Respiratory failure- patient had trach changed and was able to tolerate
   trach mask all day yesterday, although patient seems to feel
   subjectively uncomfortable.
   -continue trach mask as tolerated
   -chest PT/suctioning.
   -consider IP eval for ?tracheomalacia.
   -trial of PMV did not work well for patient, had very high tracheal
   pressures in the 30 mmH2O; possibly secondary to some TBM, continue to
   monitor on trach mask today
   .
    Delerium.  Patient has ongoing daily fevers concerning for infection
   as well as prolonged hospital course as etiology of delerium.  Will
   need to review OSH records regarding prior workup.
   - review OSH head imaging; reportedly normal
   - haldol prn agitation
 not requiring any
   -mental status seems appropriate, workup as below, continue to monitor
   and avoid sedation meds; may have been secondary to hypoxia or
   secondary to infection or ICU delerium
     Fever. U.o- Patient has had reportedly extensive fever workup
   including PET scan (radiology now uploaded into PACs).  Patient has
   been treated for PNA, UTI with various antibiotic courses.  Elevated
   LDH concerning for malignancy.  Patient never underwent bone marrow
   biopsy.
   - obtain OSH records
   - continue ceftriaxone for positive UA
   - blood, urine, sputum, c. diff pending from here
   -consider hemoonc c/s for BM bx in future, not urgent, could be done as
   outpatient
   .
   MAT: rates in the 100s-130s, not well controlled on max dilt.  Blood
   pressure always stable
   - cont dilt 90 mg qid
   - will start metoprolol 12.5 mg [**Hospital1 **]
   .
   ARF.  Patient with improving renal failure.  Initial insult thought to
   be NSAID use.  Patient is s/p one day of HD 2 months ago.
   - avoid nephrotixins
   - creatinine normalized, continue to monitor
   .
   DM-glargine and HISS, titrating upward
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
     Sciatica.  Patient has severe sciatica.
   - initated fentanyl patch
   .
   Thrombus.  Known to have RIJ thrombus.
   - obtain osh recors
   - heparin IV.
   - start coumadin today
   .
   FULL CODE
   PPx: HSQ, bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-9**] 02:35 AM 70 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2168-08-09 10:49:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   did not tolerate PMV due to high trach pressures. Rested on PSV
   overnight for tachypnea. Febrile yest to 101.4. Prior extensive workup
   had been negative.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-8**] 01:31 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-8**] 07:53 PM
   Heparin Sodium - [**2168-8-8**] 09:30 PM
   Other medications:
   vit D, lansoprazole, CaHCO3, Atrovent, Fentanyl patch, RISS, CTX,
   heparin gtt, diltiazem, metoprolol, coumadin, chlorhexidine
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-9**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 38.6
C (101.4
   HR: 98 (96 - 113) bpm
   BP: 143/69(86) {122/56(75) - 166/84(102)} mmHg
   RR: 23 (19 - 41) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 122.1 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,748 mL
                                                                  1,501 mL
   PO:
             TF:
                                                                  1,536 mL
                                                                    684 mL
   IVF:
                                                                    833 mL
                                                                    317 mL
   Blood products:
   Total out:
                                                                  2,920 mL
                                                                    645 mL
   Urine:
                                                                  2,920 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -172 mL
                                                                    856 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 535 (535 - 664) mL
   PS : 10 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 12.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, Tender: diffusely
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, not consistently following commands
   Labs / Radiology
   11.1 g/dL
   415 K/uL
   244 mg/dL
   0.9 mg/dL
   23 mEq/L
   3.7 mEq/L
   13 mg/dL
   109 mEq/L
   140 mEq/L
   34.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   Plt
   426
   405
   373
   406
   415
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   244
   Other labs: PT / PTT / INR:15.0/58.5/1.3, ALT / AST:26/34, Alk Phos / T
   Bili:361/0.9, Differential-Neuts:67.5 %, Lymph:25.3 %, Mono:2.8 %,
   Eos:3.9 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:404 IU/L,
   Ca++:8.8 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: [**Doctor First Name **]- neg
   SPEP/UPEP- pending
   TEE (OSH)- neg for vegetations
   Influenza (OSH)- neg
   Q fever, Ehrlichia (OSH)- neg
   LP (OSH)- neg
   trial of doxycycline- did not eliminate fever
   PET scan (OSH)- marrow and splenic uptake
   Imaging: [**8-9**] CXR- poor technique cutting off half R hemithorax,
   L-sided effusion plus atelectasis vs infiltrate
   Microbiology: [**8-9**] panculture- pending
   Assessment and Plan
   57 yo male with prolonged hospitalization with ARDS/Acute respiratory
   failure, waxing and [**Doctor Last Name 226**] MS, fevers.
   1.  Acute respiratory failure s/p PNA/ARDS: per rehab reports, was
   tolerating PMV and trach collar by day, PSV overnight
   -better trach collar tolerance with up-sized trach
   -wil ask IP to comment on possible intervention
   -failed PMV trial due to high trach pressures- possibly related to TBM?
   cont to re-assess, esp in light of possible IP intervention
   2.  Acute mental status- continues to wax and wane. cont to eval for
   fevers as below
   3.  Fevers: ongoing low grade fevers for months-
   -f/u SPEP and UPEP
   -Complete a 7 day course of abx for UTI w/ CTX
   -MRSA sputum cultures from OSH- potentially colonizer; consider
   treating if clinical picture warrants
   -will pursue bone marrow biopsy given OSH PET report and neg FUO workup
   otherwise
   4.  MAT: on high dose of calcium channel blocker and BB, stable
   5.  DM: On scheduled insulin and SSI
   6.  right IJ thrombus: receiving anticoagulation on heparin gtt
   Remainder of plan per ICU housestaff note
   ICU Care
   Nutrition:
   Comments: free H20 100cc q6, tube feeds
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined this pt independently, and was present with the ICU
   housestaff team for the key portions of the services provided. I agree
   with Dr. [**Last Name (STitle) 4052**]
s note above, and would add: 58 yo male with
   prolonged hospitalization at OSH in [**5-21**] with transient ARF,
   respiratory failure s/p trach/PEG, with ongoing fevers, waxing and
   [**Doctor Last Name 226**] MS, slow ventilator wean. Issues:
   1. Acute respiratory failure: On TC during the day, PSV overnight which
   we
ve learned is unchanged from course at [**Hospital1 25**]. Did not tolerate
   PMV yesterday. PMV intolerance at [**Hospital1 25**] + outside bronch results led
   to concern for TBM. Will consult IP.
   2. Fevers: Long w/u at OSH includes ID consult, multiple cultures, PET
   scan, TTE/TEE. SPEP and UPEP. Heme consult re:? BMBx
   3. MAT: reasonable rate control on beta- and calcium channel blocker.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2168-8-9**] 16:37 ------

2168-08-10 07:57:00 Physician Resident Progress Note
Chief Complaint: respiratory failure, delerium, FUO
   24 Hour Events:
   [**8-9**]
   -IP consulted will see pt in am
   -heme/onc consulted, unsure of dx, deciding on bone marrow as will be
   difficult given habitus. Smear without obvious pathology. Suggest
   possible repeat pan scan
   -finished abx
   -had 7 beat run of NSVT ARound 1045p
   - On TCM for about 6 hours yesterday; not clear why he was transitioned
   back to PS
   - FS from 160s-320s
   -[**Hospital1 25**] D/c summary.  Patient was at [**Hospital1 25**] from [**5-29**] to [**7-7**].
   In terms of his FUO, he continued to have fevers to 104 but remained
   stable.  He was treated with imipenem for pseudomonas in sputum.  He
   continued to have high fevers, but the frequency and the height of the
   high fevers decreased during the stay.
   In terms of his respiratory status, he was predominantly on vent
   support, until the past week when he was tolerating PMV during the day
   for up to 16 hours at a time.
   .
 BLOOD CULTURED - At [**2168-8-9**] 08:32 AM
 SPUTUM CULTURE - At [**2168-8-9**] 08:32 AM
 URINE CULTURE - At [**2168-8-9**] 08:32 AM
 FEVER - 101.6
F - [**2168-8-9**] 08:00 PM
   History obtained from Family / [**Hospital 216**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   ISS
   Coumadin
   Metoprolol 25TID
   Diltiazem 90 QID
   Ativan PRN
   Heparin Drip
   Fentanyl patch
   Vitamin D
   Lansoprazole
   Miconazole powder
   Calcium carbonate
   Atrovent
   Albuterol
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-10**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.3
C (100.9
   HR: 107 (83 - 107) bpm
   BP: 144/71(83) {102/41(66) - 157/76(92)} mmHg
   RR: 22 (13 - 35) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,410 mL
                                                                    102 mL
   PO:
             TF:
                                                                  1,684 mL
   IVF:
                                                                    866 mL
                                                                    102 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    360 mL
   Urine:
                                                                  1,470 mL
                                                                    360 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                   -258 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 612 (374 - 698) mL
   PS : 8 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///21/
   Ve: 13.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   396 K/uL
   9.9 g/dL
   166 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.5 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   32.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   Plt
   426
   405
   373
   [**Telephone/Fax (3) 7988**]
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   244
   166
   Other labs: PT / PTT / INR:15.1/30.8/1.3, ALT / AST:26/34, Alk Phos / T
   Bili:361/0.9, Differential-Neuts:65.5 %, Lymph:27.8 %, Mono:2.4 %,
   Eos:4.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:404 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure transferred here
   for inability to wean from vent and persistent FUO.
   .
   FUO.  Patient has had extensive FUO workup at [**Hospital3 2241**] in [**Month (only) 8**]-[**Month (only) 1646**]
   including LP, ehrlichia, q-fever, trial of therapy with doxy.  PET scan
   reportedly showed increased uptake in marrow and spleen.  His Glucan
   returned positive today at greater than assay.  He has been exposed to
   zosyn recently, but this level of positivity seems to be higher than
   what would expect to see with zosyn exposure.  Galactomanan is still
   pending.  Patient was treated with 7 days of Zosyn
 ceftriaxone for
   UTI.  Repeat UA shows only yeast.  Heme/onc willing to pursue bone
   marrow biopsy in a few days if no clear source of fevers is found.
   Back exam revealed only tenderess at sacrum.
   - f/u culture data
   - Heme/Onc following for possible BMBx later this week
   - no antibiotics for now
   - f/u galactomannan
   - CT torso to look for infectious source
   - consider Lumbar/Sacral imaging if diagnostic workup is unrevealing
   .
   Respiratory failure.  Patient has been tolerating PMV and TCM during
   days for several weeks at [**Hospital1 25**], but patient required PSV at night.
   Patient was initially doing well after trach size increased but
   required resting on PSV several days now.  Additionally, had high
   tracheal pressure with PMV use.  Also hasOSA and ?obesity
   hypoventilation.  IP will bronch today to evaluate for trachemalacia.
   NO evidence of pulmonary infection at present.
   - IP to bronch today for ?stent placement
   - continue trach mask as tolerated
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing FUO for two months with
   no clear source of infection.  Prior LP has been non-diagnostic.  Head
   CTs have been negative in the past.  Patient has overall hadimprovement
   ofmental status, but still not at baseline per wife.  EEG from [**Hospital1 25**]
   2 months ago showed toxic metabolic encephalopathy.
   - haldol prn agitation
 not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and initiation
   of metoprolol a few days ago
   - cont dilt 90 mg qid
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - increase glargine and HISS
   - follow FS
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   Today complaining of back pain, but difficult to clarify
   nature and source of pain.  Will avoid increasing pain medications so
   as not to [**Last Name (un) 4556**] the pain.
   - continue fentanyl patch
   .
   Thrombus.  Known to have RIJ thrombus.   Getting heparin to coumadin
   bridging.
   - heparin to coumadin bridging
   .
   FULL CODE
   PPx: heparin drip
 coumadin, bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Comments: Tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2168-08-10 11:21:00 Physician Attending Progress Note
Chief Complaint: acute respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2168-8-9**] 08:32 AM
 SPUTUM CULTURE - At [**2168-8-9**] 08:32 AM
 URINE CULTURE - At [**2168-8-9**] 08:32 AM
 FEVER - 101.6
F - [**2168-8-9**] 08:00 PM
   IP consult-plan bronch today
   Heme consult: peripheral smear unrevealing, BMBx difficult in current
   body position
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   vitamin D, lansoprazole 30 mg qd, ca carbonate 1250 TID, atrovent MDI
   QID, fenatyl patch 50 patch q 72h, SSI, free water boluses, dilt,
   lopressor, coumadin 5 mg daily
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-10**] 11:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.6
   Tcurrent: 38.1
C (100.5
   HR: 91 (83 - 107) bpm
   BP: 142/77(89) {102/41(66) - 157/77(92)} mmHg
   RR: 18 (13 - 35) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,410 mL
                                                                    254 mL
   PO:
             TF:
                                                                  1,684 mL
   IVF:
                                                                    866 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,470 mL
                                                                    570 mL
   Urine:
                                                                  1,470 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,940 mL
                                                                   -316 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 548 (374 - 698) mL
   PS : 8 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 52
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 9.6 L/min
   Physical Examination
   Obese male, no apparent distress
   HEENT: PERRL; +trach
   Lungs: coarse bs bilaterally
   CV: RRR, no M/G/R
   Abd: soft, mildly tender near PEG site, +bs
   Ext: calves nontender, +boots
   Peripheral Vascular: 2+ pulses
   Skin:  warms, no rashes
   Neurologic: Responds to: verbal commands, Movement:purposeful, Tone:
   normal
   Labs / Radiology
   9.9 g/dL
   396 K/uL
   166 mg/dL
   0.9 mg/dL
   21 mEq/L (AG12)
   3.5 mEq/L
   16 mg/dL
   109 mEq/L
   142 mEq/L
   32.0 %
   10.6 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   Plt
   426
   405
   373
   [**Telephone/Fax (3) 7988**]
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   TCO2
   24
   Glucose
   198
   210
   197
   227
   217
   244
   166
   Other labs: PT / PTT / INR:15.1/30.8/1.3, ALT / AST:26/34, Alk Phos / T
   Bili:361/0.9, Differential-Neuts:65.5 %, Lymph:27.8 %, Mono:2.4 %,
   Eos:4.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:404 IU/L,
   Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**Last Name (un) **] Cx: 10-100K yeast
   GS sputum: no organisms
   Bd Cultures 7/28 NGTD
   Beta glucan >500
   Galactomanan pending
   Assessment and Plan
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   57 yo male with 2 mo prolonged hospitalization, ARF (resolved), acute
   resp failure with ?TBM, ongoing fevers
   1.       FUO: prolonged OSH w/u negative for infectious source. Of note
   is the +beta-glucan which raises concern for fungal infection
   -Mucolytic blood cultures and galactomannan pending
   -CT Torso
   -Possible BMBx by Heme later this wk if fevers persist without clear
   cause
   2.       Acute respiratory failure: Attempt TC today.
   -IP to bronch for question of TBM
   3.       AMS: appears reasonable; pt interactive and able to follow
   commands. No acute intervention
   4.       Acute renal failure: resolved, continue to monitor hct
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Pt is critically ill

2168-08-11 07:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - IP bronched patient, saw TBM both prox and distal to trach site,
   would ideally like to do two part stenting, first with Y stent
   - need to rule out infection prior to stent placement
   - CT scan of abdomen done in evening, wet read:
   1. Bibasilar atelectasis/consolidation at the lung bases, left greater
   than right, and patchy ground-glass opacities of the mid-to-lower
   lungs, significantly improved from [**2168-6-28**], most likely resolving
   pneumonia.
   2. No infectious process identified in the abdomen or pelvis.
   - B glucan positive, mycolytic cultures sent
   - mild hypotension with SBPs in 80s post-procedure, responded to 1L NS
   bolus with stable vitals rest of night
   - fever to 101 in afternoon, with low grade throughout day
   - heme onc following along with possible BM biopsy in near future;
   smear was unremarkable when examined yesterday
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-8-10**] 03:45 PM
   Fentanyl - [**2168-8-10**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to reliably assess.
   Flowsheet Data as of  [**2168-8-11**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.6
C (99.7
   HR: 85 (80 - 108) bpm
   BP: 127/50(70) {104/49(60) - 157/90(95)} mmHg
   RR: 19 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,005 mL
                                                                  1,008 mL
   PO:
             TF:
             361 mL
   IVF:
                                                                  1,555 mL
                                                                    268 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    465 mL
   Urine:
                                                                  1,265 mL
                                                                    465 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                    543 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 693 (459 - 702) mL
   PS : 8 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 12.3 L/min
   Physical Examination
   Gen: trached, arousable, obese
   HEENT: PERRL, trach present
   CV: difficult to auscultate due to coarse breath sounds
   Pulm: coarse breath sounds diffusely
   Abd: obese, soft, NT, + g-tube
   Ext: no peripheral edema
   Labs / Radiology
   350 K/uL
   9.2 g/dL
   186 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   136 mEq/L
   29.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   Plt
   426
   405
   373
   [**Telephone/Fax (3) 7988**]
   350
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   [**Telephone/Fax (2) 8009**]86
   Other labs: PT / PTT / INR:16.6/93.7/1.5, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.9 %,
   Lymph:20.2 %, Mono:2.8 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   .
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure transferred here
   for inability to wean from vent and persistent FUO.
   .
   FUO.  Patient has had extensive FUO workup at [**Hospital3 2241**] in [**Month (only) 8**]-[**Month (only) 1646**]
   including LP, ehrlichia, q-fever, trial of therapy with doxy.  PET scan
   reportedly showed increased uptake in marrow and spleen.  His Glucan
   returned positive today at greater than assay.  He has been exposed to
   zosyn recently, but this level of positivity seems to be higher than
   what would expect to see with zosyn exposure.  Galactomanan is still
   pending.  Patient was treated with 7 days of Zosyn
 ceftriaxone for
   UTI.  Repeat UA shows only yeast.  Heme/onc willing to pursue bone
   marrow biopsy in a few days if no clear source of fevers is found.
   Back exam revealed only tenderess at sacrum.
   - f/u culture data
   - Heme/Onc following for possible BMBx later this week
   - no antibiotics for now
   - f/u galactomannan
   - CT torso to look for infectious source-nothing apparent.
   - Lumbar/Sacral imaging today.
   -will likely be consulting ID and rheum
   .
   Respiratory failure.  Patient has been tolerating PMV and TCM during
   days for several weeks at [**Hospital1 25**], but patient required PSV at night.
   Patient was initially doing well after trach size increased but
   required resting on PSV several days now.  Additionally, had high
   tracheal pressure with PMV use.  Also hasOSA and ?obesity
   hypoventilation.  IP bronched  to evaluate for trachemalacia. NO
   evidence of pulmonary infection at present.
   - saw evidence of TBM, will need 2 part stenting, awaiting no evidence
   of infection first.
   - continue trach mask as tolerated
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing FUO for two months with
   no clear source of infection.  Prior LP has been non-diagnostic.  Head
   CTs have been negative in the past.  Patient has overall hadimprovement
   ofmental status, but still not at baseline per wife.  EEG from [**Hospital1 25**]
   2 months ago showed toxic metabolic encephalopathy.
   - haldol prn agitation
 not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and initiation
   of metoprolol a few days ago
   - cont dilt 90 mg qid
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - increase glargine and HISS
   - follow FS
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   Today complaining of back pain, but difficult to clarify
   nature and source of pain.  Will avoid increasing pain medications so
   as not to [**Last Name (un) 4556**] the pain.
   - continue fentanyl patch
   - back imaging to r/o infection.
   .
   Thrombus.  Known to have RIJ thrombus.   Getting heparin to coumadin
   bridging.
   - heparin to coumadin bridging
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-11**] 12:00 AM 60 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: full
   Disposition:ICU while ventilator dependent

2168-08-11 09:48:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo male with 2 mo prolonged hospitalization, ARF (resolved), acute
   resp failure with ?TBM, ongoing fevers
   24 Hour Events:
   s/p IP bronch yest w/ tbm noted and plans for stent once infectious
   processes evaluated for.  febrile to [**Age over 90 **] yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Heparin Sodium - 2,550 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-8-10**] 03:45 PM
   Fentanyl - [**2168-8-10**] 03:45 PM
   Lansoprazole (Prevacid) - [**2168-8-11**] 08:11 AM
   Other medications:
   Atrovent, lansoprazole, Vit D, fentanyl, heparin sc, diltiazem
   metoprolol, Peridex, RISS,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-11**] 09:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (101
   Tcurrent: 37.2
C (98.9
   HR: 90 (80 - 108) bpm
   BP: 111/38(56) {104/38(56) - 157/90(95)} mmHg
   RR: 21 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,005 mL
                                                                  1,300 mL
   PO:
             TF:
             469 mL
   IVF:
                                                                  1,555 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,265 mL
                                                                    745 mL
   Urine:
                                                                  1,265 mL
                                                                    745 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    740 mL
                                                                    555 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 523 (459 - 702) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 55
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 8.4 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: spine and paraspinal spaces palpated- sacral
   tenderness noted
   Skin:  Warm, Stage 2 breakdown on both buttocks
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.2 g/dL
   350 K/uL
   186 mg/dL
   0.8 mg/dL
   22 mEq/L
   4.3 mEq/L
   12 mg/dL
   107 mEq/L
   136 mEq/L
   29.9 %
   10.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   Plt
   426
   405
   373
   [**Telephone/Fax (3) 7988**]
   350
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   [**Telephone/Fax (2) 8009**]86
   Other labs: PT / PTT / INR:16.6/93.7/1.5, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.9 %,
   Lymph:20.2 %, Mono:2.8 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.3 mg/dL, Mg++:2.0 mg/dL, PO4:3.4
   mg/dL
   Imaging: CT torso ([**8-10**])- resolving pna compared to prior CT chest. no
   evidence of infxn on a/p film
   Microbiology: all cx neg or pending
   Assessment and Plan
   57 yo male with 2 mo prolonged hospitalization, ARF (resolved), acute
   resp failure with ?TBM, ongoing fevers
   1.  FUO: prolonged OSH w/u negative for infectious source. Of note is
   the +beta-glucan which raises concern for fungal infection
   -Mucolytic blood cultures and galactomannan pending
   -CT Torso without source of infxn
   -will get MRI LS spine to evaluate
   -Possible BMBx by Heme later this wk if fevers persist without clear
   cause
   -probable ID consult following imaging
   2.  Acute respiratory failure: related to prior pna, has underlying TBM
   and sleep-disordered breathing
   -TC by day
   -PSV overnight
   -IP to place bronchial stents once infectious issues resolved
   3.  AMS: appears reasonable; pt interactive and able to follow
   commands. No acute intervention
   -will get Portuguese interpreter to better evaluate
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-11**] 12:00 AM 60 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt, and was present with the ICU housestaff team
   for the relevant portions of the services provided. I agree with Dr.
   [**Last Name (STitle) 4052**]
s note, including assessment and plan. Bronchoscopy
   yesterday by Interventional Pulmonary revealed severe diffuse TBM that
   is likely contributing to the pt
s acute respiratory failure and
   prolonged ventilator wean. The first step would be placement of a
   silicone Y stent; however there is no urgent need for its placement,
   esp. in the context of possible active infection which would pose a
   relative contraindication. CT Torso without obvious infectious source;
   pt getting MRI of the LS spine given ongoing complaints of back pain,
   galactomanan levels pending. [**Month (only) 8**] need ID consult to further sort out
   whether his fevers represent an active infectious process.
   Pt is critically ill.
   Total time spent on pt: 40 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2168-8-11**] 16:02 ------

2168-08-12 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2168-8-11**] 08:00 PM
   .
   - lumbar spine MRI performed, awaiting read
   - tolerated TCM during the day
   - galactomannan still pending; but rested on vent for MRI and then for
   the night
   - communicated with patient with translator, but unable to comprehend
   what he was saying
   History obtained from Medical records
   Patient unable to provide history: Sedated, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2168-8-11**] 08:11 AM
   Midazolam (Versed) - [**2168-8-11**] 09:00 PM
   Fentanyl - [**2168-8-11**] 09:00 PM
   Lorazepam (Ativan) - [**2168-8-12**] 02:30 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2168-8-12**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 96 (78 - 102) bpm
   BP: 131/61(77) {109/38(56) - 149/73(90)} mmHg
   RR: 20 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,738 mL
                                                                  1,064 mL
   PO:
             TF:
                                                                  1,311 mL
                                                                    581 mL
   IVF:
                                                                    777 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    650 mL
   Urine:
                                                                  2,825 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                    414 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube now on trach collar
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 715 (493 - 715) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   Gen: trached, arousable, obese
   HEENT: PERRL, trach present
   CV: difficult to auscultate due to coarse breath sounds
   Pulm: coarse breath sounds diffusely
   Abd: obese, soft, NT, + g-tube
   Ext: no peripheral edema
   Labs / Radiology
   351 K/uL
   8.9 g/dL
   235 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   136 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   Plt
   426
   405
   373
   [**Telephone/Fax (2) 8035**]51
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   [**Telephone/Fax (2) 8009**]86
   235
   Other labs: PT / PTT / INR:16.6/150.0/1.5, ALT / AST:27/31, Alk Phos /
   T Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.9 %,
   Lymph:20.2 %, Mono:2.8 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Assessment and Plan
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   .
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure transferred here
   for inability to wean from vent and persistent FUO.
   .
   FUO.  Patient has had extensive FUO workup at [**Hospital3 2241**] in [**Month (only) 8**]-[**Month (only) 1646**]
   including LP, ehrlichia, q-fever, trial of therapy with doxy.  PET scan
   reportedly showed increased uptake in marrow and spleen.  His Glucan
   returned positive today at greater than assay.  He has been exposed to
   zosyn recently, but this level of positivity seems to be higher than
   what would expect to see with zosyn exposure.  Galactomanan is still
   pending.  Patient was treated with 7 days of Zosyn
 ceftriaxone for
   UTI.  Repeat UA shows only yeast.  Heme/onc willing to pursue bone
   marrow biopsy in a few days if no clear source of fevers is found.
   Back exam revealed only tenderess at sacrum.
   - f/u culture data
   - Heme/Onc following for possible BMBx later this week
   - no antibiotics for now
   - f/u galactomannan
   - CT torso to look for infectious source-nothing apparent.
   - Lumbar/Sacral imaging yesterday, awaiting final read
   -will likely be consulting ID today
   .
   Respiratory failure.  Patient has been tolerating PMV and TCM during
   days for several weeks at [**Hospital1 25**], but patient required PSV at night.
   Patient was initially doing well after trach size increased but
   required resting on PSV several days now.  Additionally, had high
   tracheal pressure with PMV use.  Also hasOSA and ?obesity
   hypoventilation.  IP bronched  to evaluate for trachemalacia. NO
   evidence of pulmonary infection at present.
   - saw evidence of TBM, will need 2 part stenting, awaiting no evidence
   of infection first.
   - continue trach mask as tolerated, wean prn
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing FUO for two months with
   no clear source of infection.  Prior LP has been non-diagnostic.  Head
   CTs have been negative in the past.  Patient has overall hadimprovement
   ofmental status, but still not at baseline per wife.  EEG from [**Hospital1 25**]
   2 months ago showed toxic metabolic encephalopathy.
   - haldol prn agitation
 not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and initiation
   of metoprolol a few days ago
   - cont dilt 90 mg qid
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - increase glargine and HISS
   - follow FS
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   Today complaining of back pain, but difficult to clarify
   nature and source of pain.  Will avoid increasing pain medications so
   as not to [**Last Name (un) 4556**] the pain.
   - continue fentanyl patch
   - back imaging to r/o infection.
   .
   Thrombus.  Known to have RIJ thrombus.   Getting heparin to coumadin
   bridging.
   - heparin to coumadin bridging
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-12**] 02:58 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU while vent dependent

2168-08-12 10:13:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo male with 2 mo prolonged hospitalization, ARF (resolved), acute
   resp failure with TBM, ongoing FUO.
   24 Hour Events:
   tolerated trach collar during the day yest.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2168-8-9**] 01:00 PM
   Infusions:
   Heparin Sodium - 1,750 units/hour
   Other ICU medications:
   Midazolam (Versed) - [**2168-8-11**] 09:00 PM
   Fentanyl - [**2168-8-11**] 09:00 PM
   Lorazepam (Ativan) - [**2168-8-12**] 02:30 AM
   Other medications:
   Atrovent, CaHCO3, Lansoprazole, Vit D, fentanyl patch, heparin gtt,
   diltiazem, metoprolol, Chlorhexidine, RISS,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-12**] 10:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 91 (78 - 102) bpm
   BP: 132/61(79) {109/42(60) - 149/73(90)} mmHg
   RR: 23 (15 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  2,738 mL
                                                                  1,335 mL
   PO:
             TF:
                                                                  1,311 mL
                                                                    750 mL
   IVF:
                                                                    777 mL
                                                                    325 mL
   Blood products:
   Total out:
                                                                  2,825 mL
                                                                    775 mL
   Urine:
                                                                  2,825 mL
                                                                    775 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -87 mL
                                                                    560 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 715 (493 - 715) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 37
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///24/
   Ve: 12.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : ant)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed, Stage 2 breakdown on bilateral buttocks without
   surrounding erythema, wounds are dressed
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, variably follows commands
   Labs / Radiology
   8.9 g/dL
   351 K/uL
   235 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.1 mEq/L
   11 mg/dL
   104 mEq/L
   136 mEq/L
   27.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2168-8-6**]  02:34 AM
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
   WBC
   10.6
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   Hct
   33.5
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   Plt
   426
   405
   373
   [**Telephone/Fax (2) 8035**]51
   Cr
   1.4
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   TCO2
   24
   Glucose
   198
   210
   197
   227
   [**Telephone/Fax (2) 8009**]86
   235
   Other labs: PT / PTT / INR:16.6/150.0/1.5, ALT / AST:27/31, Alk Phos /
   T Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.9 %,
   Lymph:20.2 %, Mono:2.8 %, Eos:3.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.5 mg/dL, Mg++:1.8 mg/dL, PO4:3.6
   mg/dL
   Imaging: CXR ([**8-12**])- no change
   MRI ls spine ([**8-11**]) - read pending
   Microbiology: fungal blood cx- pending
   galactomannan- pending
   Assessment and Plan
   57 yo male with 2 mo prolonged hospitalization, ARF (resolved), acute
   resp failure with TBM, FUO.
   1.  FUO: prolonged OSH w/u negative for infectious source. Of note is
   the +beta-glucan which raises concern for fungal infection
   -Mucolytic blood cultures and galactomannan pending
   -f/u MRI LS spine to evaluate for some sacral tenderness to palpation
   -CT Torso without source of infxn
   -Possible BMBx by Heme later this wk if fevers persist without clear
   cause
   -will ask ID to weigh in
   2.  Acute respiratory failure: related to prior pna, has underlying TBM
   and sleep-disordered breathing
   -TC by day
   -PSV overnight
   -IP to place bronchial stents once infectious issues resolved
   3.  AMS: appears reasonable; pt interactive but variably following
   commands. No acute intervention
   -minimize sedatives
   Remainder of plan as per housestaff note
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-12**] 02:58 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   I saw and examined the pt independently, and was present with the ICU
   housestaff team for the key portions of the services provided. I agree
   with Dr. [**Last Name (STitle) 4052**]
s note, including assessment and plan, and would
   add: 57 yo male admitted to OSH 2 months ago with complicated
   hospitalization including acute respiratory failure with difficulty
   tolerating ventilator wean, MS changes, intermittent fevers.
   Transferred here due to concerns of TBM, which was confirmed by
   bronchoscopy earlier this week. New developments include that his LS
   spine MRI has returned with a preliminary read for sacral osteomyelitis
   & myositis. Have requested ID consult. His acute respiratory failure
   remains mostly unchanged, with his tolerating TC during the day but
   requiring PSV overnight. This may not improve until his TBM is fixed,
   but will need to clarify infectious issues first.
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 1174**] [**Last Name (NamePattern1) **], MD
   on:[**2168-8-12**] 16:31 ------

2168-08-13 05:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   L-Spine MRI.
   1. Findings which may represent discitis osteomyelitis or degenerative
   disc changes at the L5/S1 region.
   2. Findings likely representing myositis in the bilateral posterior
   lumbar muscles, right greater than left, extending from L4 to the
   lumbosacral junction.
   3. Severe multilevel degenerative changes extending from L3/L4 through
   L5/S1 as extensively detailed above with encroachment of the right
   descending L4 nerve root and likely on the descending left S1 nerve
   root. Please refer to these levels for complete findings.
   -ID consulted called for osteo tx: rec bone bx. Rec off abx for ~48-72
   hrs prior to bx. If unstable etc, would tx with vanco/cipro/flagyl.
   Daily bcx's, and repeat B-glucan think likely from abx.
   -will need to call spine today to see if  bx feasible
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-13**] 12:50 AM
   Haloperidol (Haldol) - [**2168-8-13**] 12:50 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-13**] 05:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.5
C (97.7
   HR: 87 (81 - 99) bpm
   BP: 130/64(80) {94/56(74) - 159/95(99)} mmHg
   RR: 23 (17 - 26) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,231 mL
                                                                    773 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    435 mL
   IVF:
                                                                    731 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    435 mL
   Urine:
                                                                  2,645 mL
                                                                    435 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    586 mL
                                                                    338 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 438 (438 - 757) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: ///21/
   Ve: 7.5 L/min
   Physical Examination
   Gen: trached, arousable, obese
   HEENT: PERRL, trach present
   CV: difficult to auscultate due to coarse breath sounds
   Pulm: coarse breath sounds diffusely
   Abd: obese, soft, NT, + g-tube
   Ext: no peripheral edema
   Labs / Radiology
   367 K/uL
   9.4 g/dL
   181 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   29.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
   WBC
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   Hct
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   Plt
   [**Telephone/Fax (3) 8060**]
   351
   367
   Cr
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   TCO2
   24
   Glucose
   [**Telephone/Fax (3) 8061**]
   186
   235
   181
   Other labs: PT / PTT / INR:13.9/66.8/1.2, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:71.0 %,
   Lymph:22.0 %, Mono:3.1 %, Eos:3.5 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 OSTEOMYELITIS
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   .
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   trached and peged here for fevers, respiratory failure transferred here
   for inability to wean from vent and persistent FUO.
   .
   FUO.  Patient has had extensive FUO workup at [**Hospital3 2241**] in [**Month (only) 8**]-[**Month (only) 1646**]
   including LP, ehrlichia, q-fever, trial of therapy with doxy.  PET scan
   reportedly showed increased uptake in marrow and spleen.  His Glucan
   returned positive today at greater than assay.  He has been exposed to
   zosyn recently, but this level of positivity seems to be higher than
   what would expect to see with zosyn exposure.  Galactomanan is still
   pending.  Patient was treated with 7 days of Zosyn
 ceftriaxone for
   UTI.  Repeat UA shows only yeast.  Heme/onc willing to pursue bone
   marrow biopsy in a few days if no clear source of fevers is found.
   Back exam revealed only tenderess at sacrum.
   - f/u culture data
   - Heme/Onc following for possible BMBx later this week
   - no antibiotics for now
   - f/u galactomannan
   - CT torso to look for infectious source-nothing apparent.
   - Lumbar/Sacral imaging suggests discitis, osteomyelitis, myositis.
   -ID consulted, re: bone bx, repeat B-glucan, then start abx.
   .
   Respiratory failure.  Patient has been tolerating PMV and TCM during
   days for several weeks at [**Hospital1 25**], but patient required PSV at night.
   Patient was initially doing well after trach size increased but
   required resting on PSV several days now.  Additionally, had high
   tracheal pressure with PMV use.  Also hasOSA and ?obesity
   hypoventilation.  IP bronched  to evaluate for trachemalacia. NO
   evidence of pulmonary infection at present.
   - saw evidence of TBM, will need 2 part stenting, awaiting no evidence
   of infection first.
   - continue trach mask as tolerated, wean prn
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing FUO for two months with
   no clear source of infection.  Prior LP has been non-diagnostic.  Head
   CTs have been negative in the past.  Patient has overall hadimprovement
   ofmental status, but still not at baseline per wife.  EEG from [**Hospital1 25**]
   2 months ago showed toxic metabolic encephalopathy.
   - haldol prn agitation
 not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and initiation
   of metoprolol a few days ago
   - cont dilt 90 mg qid
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - increase glargine and HISS
   - follow FS
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   Today complaining of back pain, but difficult to clarify
   nature and source of pain.  Will avoid increasing pain medications so
   as not to [**Last Name (un) 4556**] the pain.
   - continue fentanyl patch
   - LS MRI suggests osteo, discitis, myositis
   .
   Thrombus.  Known to have RIJ thrombus.   Getting heparin to coumadin
   bridging.
   - heparin , then coumadin bridging
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   .
   .
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-13**] 02:56 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: hep IV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU while vent dependent

2168-08-13 08:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo M with prolonged hospital stays at both [**Hospital1 959**] and [**Hospital1 25**] for
   new onset renal failure, hypoxic respiratory failure s/p trach,
   delirium and [**Hospital **] transferred to [**Hospital1 5**] from rehab for continued fevers,
   delirium and tracheobronchomalacea.  Also IJ thrombus getting heparin
   gtt. Creatinine has normalized on its own. Delirium is resolving/
   resolved. Tracheobronchomalacea mgmt is being pursued w/ IP consult who
   plans on bronchial stent once infectious issues addressed. Vent status
   is trach collar by day PSV overnight (for sleep-disordered breathing).
   FUO workup resulted in dx of sacral osteomyelitis on [**8-12**], ID consulted
   to help define abx course. Once infectious issues settled, needs
   bronchial stent from IP and then to rehab.
   24 Hour Events:
   No events.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-13**] 12:50 AM
   Haloperidol (Haldol) - [**2168-8-13**] 12:50 AM
   Other medications:
   atrovent, lansoprazole, fentanyl patch, heparin gtt 2150,
   chlorhexidine, SSI, lopressor, haldol, ativan
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-13**] 08:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 89 (81 - 99) bpm
   BP: 139/63(80) {94/56(74) - 159/95(99)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,231 mL
                                                                  1,188 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    644 mL
   IVF:
                                                                    731 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  2,645 mL
                                                                    760 mL
   Urine:
                                                                  2,645 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    586 mL
                                                                    428 mL
   Respiratory support
   O2 Delivery Device: Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 581 (438 - 757) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///21/
   Ve: 8.5 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   9.4 g/dL
   367 K/uL
   181 mg/dL
   0.7 mg/dL
   21 mEq/L
   3.9 mEq/L
   11 mg/dL
   105 mEq/L
   138 mEq/L
   29.0 %
   10.0 K/uL
        [image002.jpg]
                             [**2168-8-6**]  05:51 AM
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
   WBC
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   Hct
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   Plt
   [**Telephone/Fax (2) 8060**]
   351
   367
   Cr
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   TCO2
   24
   Glucose
   [**Telephone/Fax (2) 8061**]
   186
   235
   181
   Other labs: PT / PTT / INR:13.9/66.8/1.2, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:71.0 %,
   Lymph:22.0 %, Mono:3.1 %, Eos:3.5 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.2
   mg/dL
   Assessment and Plan
 OSTEOMYELITIS
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   1. FUO: Likely osteomyelitis, needs bone biopsy
   -holding off on antibiotics
   -bone biopsy prior to antibiotics
   -ID recs
   2. Resp failure: PNA, now improved, severe TBM
   -needs stent at some point
   3. RIJ thrombus: Cont. heparin gtt
   4. Nutrition: goal TF
   5. ppx: heparin, PPI
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-13**] 02:56 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   CRITICAL CARE
   Present for the key portions of the resident
s history and exam. Agree
   substantially with assessment and plan as outlined by Dr. [**First Name (STitle) 1516**].  On
   trache collar this morning.
   98.8      88     128/84
   Arousable, attends
   Chest
 clear
   Abd
 sof w/o tenderness
   WBC 10.0
   Doing well. Ortho evaluating for bx of disc.  ID consulting. No echo.
   Doing well with nocturnal ventilation
   Time spent 30 min
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2168-8-13**] 11:41 ------

2168-08-14 07:51:00 Physician Resident Progress Note
Chief Complaint: fevers, respiratory failure
   24 Hour Events:
   [**2168-8-13**]
   - ortho consulted for bone biopsy, deferred biopsy to CT guided biopsy
   by neuroradiology; they were overall unsure of the diagnosis of osteo
   based on MRI, suggested a tagged WBC scan prior to biopsy because if
   negative, still cannot be certain it is not osteo
   - neuroradiolgist will likely be able to do a biopsy on Monday,
   although the requistion will be reviewed on Monday morning, so the
   fellow said don't stop the heparin or tube feeds until we're called
   that day; the attending will be in around 730 or 8 am
   - secretions seems thicker today than last few days, did not spike so a
   sample wasn't sent, but CXR ordered for the AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-13**] 09:57 PM
   Haloperidol (Haldol) - [**2168-8-13**] 09:57 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-14**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 95 (82 - 99) bpm
   BP: 160/76(92) {108/40(70) - 179/114(127)} mmHg
   RR: 19 (15 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,196 mL
                                                                  1,075 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    585 mL
   IVF:
                                                                    746 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    450 mL
   Urine:
                                                                  2,315 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    881 mL
                                                                    625 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 587 (491 - 674) mL
   PS : 5 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, obese,trached
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   346 K/uL
   9.1 g/dL
   215 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   27.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
   WBC
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   Hct
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   Plt
   [**Telephone/Fax (2) 8060**]
   [**Telephone/Fax (3) 8083**]
   Cr
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   Glucose
   [**Telephone/Fax (3) 8061**]
   186
   235
   181
   215
   Other labs: PT / PTT / INR:13.4/80.0/1.1, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.1 %,
   Lymph:20.4 %, Mono:3.6 %, Eos:3.5 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
   .
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent FUO.
   .
   FUO.  Patient has had extensive FUO workup at [**Hospital3 2241**] in [**Month (only) 8**]-[**Month (only) 1646**]
   including LP, ehrlichia, q-fever, trial of therapy with doxy.  PET scan
   reportedly showed increased uptake in marrow and spleen.  His Glucan
   returned positive at greater than assay.  He has been exposed to zosyn
   recently, but this level of positivity seems to be higher than what
   would expect to see with zosyn exposure.  Galactomanan is still
   pending.  Patient was treated with 7 days of Zosyn
 ceftriaxone for
   UTI.  Repeat UA shows only yeast.  MRI of sacrum showed likely
   osteomyelitis and myositis.
   - ID consulted, appreciate recs
   - f/u culture data, daily survelience cultures
   - no antibiotics for now, will pursue bone biopsy
   - f/u galactomannan, resend glucan
   - CT torso to look for infectious source-nothing apparent..
   -heme onc was following for FUO workup, but will likely defer BM biopsy
   at this time
   .
   Respiratory failure.  Patient has been tolerating PMV and TCM during
   days for several weeks at [**Hospital1 25**], but patient required PSV at night.
   Patient was initially doing well after trach size increased but
   required resting on PSV several days now.  Additionally, had high
   tracheal pressure with PMV use.  Also hasOSA and ?obesity
   hypoventilation.  IP bronched  to evaluate for trachemalacia which is
   severe.
   - saw evidence of TBM, will need 2 part stenting, awaiting no evidence
   of infection first.
   - continue trach mask as tolerated, wean prn
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing FUO for two months with
   no clear source of infection.  Prior LP has been non-diagnostic.  Head
   CTs have been negative in the past.  Patient has overall had
   improvement ofmental status, but still not at baseline per wife.  EEG
   from [**Hospital1 25**] 2 months ago showed toxic metabolic encephalopathy.
   - haldol prn agitation
 not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and initiation
   of metoprolol a few days ago
   - cont dilt 90 mg qid
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - increase glargine and HISS
   - follow FS
   .
    Anemia.
   - anemia studies
   - ferritin above level of assay; likely reactive (source unknown now,
   does have decub ulcers)
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   Today complaining of back pain, but difficult to clarify
   nature and source of pain.  Will avoid increasing pain medications so
   as not to [**Last Name (un) 4556**] the pain.
   - continue fentanyl patch
   - LS MRI suggests osteo, discitis, myositis
   .
   Thrombus.  Known to have RIJ thrombus.   Getting heparin to coumadin
   bridging.
   - heparin , then coumadin bridging, hold coumadin in light of upcoming
   procedure
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-13**] 02:56 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2168-08-14 10:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 y/o m with FUO and resp failure. Now with evidence of osteo on MRI.
   Plan for bone bx in IR Monday.
   24 Hour Events:
   TC during day, then placed back on [**5-17**] overnight. Still having
   intermittent coughing on TC.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-13**] 09:57 PM
   Haloperidol (Haldol) - [**2168-8-13**] 09:57 PM
   Other medications:
   vit D, prevacid, calcium, fentanyl patch, heparin gtt, diltiazem,
   metoprol, SSI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-14**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 90 (82 - 99) bpm
   BP: 148/75(94) {108/40(70) - 179/114(127)} mmHg
   RR: 21 (15 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,196 mL
                                                                  1,404 mL
   PO:
             TF:
                                                                  1,800 mL
                                                                    758 mL
   IVF:
                                                                    746 mL
                                                                    446 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                    575 mL
   Urine:
                                                                  2,315 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    881 mL
                                                                    829 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (491 - 674) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 70
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 11.9 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash:
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   346 K/uL
   215 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.7 mEq/L
   15 mg/dL
   102 mEq/L
   134 mEq/L
   27.6 %
   8.1 K/uL
        [image002.jpg]
                             [**2168-8-6**]  01:43 PM
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
   WBC
   9.4
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   Hct
   31.4
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   Plt
   [**Telephone/Fax (3) 8060**]
   [**Telephone/Fax (3) 8083**]
   Cr
   1.2
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   Glucose
   [**Telephone/Fax (3) 8061**]
   186
   235
   181
   215
   Other labs: PT / PTT / INR:13.4/80.0/1.1, ALT / AST:27/31, Alk Phos / T
   Bili:266/0.8, Amylase / Lipase:/24, Differential-Neuts:72.1 %,
   Lymph:20.4 %, Mono:3.6 %, Eos:3.5 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:284 IU/L, Ca++:9.1 mg/dL, Mg++:1.5 mg/dL, PO4:3.8
   mg/dL
   Assessment and Plan
 OSTEOMYELITIS
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   Problems:
   Altered mental status
   FUO
   Osteomyelitis
   Plan:
   1. FUO/osteo:
   -bone biopsy to r/o osteo
   -will likely ultimately need tagged WBC scan if bone bx neg
   -d/c fentanyl patch, try low dose narcotics prn
   2. Tachycardia: MAT
   -dilt and metoprolol
   3. DM: increase glargine slightly
   -cont. TF
   4. RIJ thrombus: cont. heparin gtt, will need to be held
   5. FEN: Cont. TF
   6. ppx: heparin, PPI, SSI
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-13**] 02:56 AM 74.[**Telephone/Fax (3) 8036**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   ------ Protected Section ------
   MICU Attending Addendum:
   On this day I examined the patient and was present for the key portions
   of the services provided.  I have reviewed Dr [**First Name (STitle) 1516**]
s note above and
   agree with her findings and plan of care.  Currently pt is resting on
   vent. We are awaiting bone bx by IR and for now pt is off antibiotics
   pending that bx.  Once ID issues decided he will also need
   tracheobronchial stenting as his TBM is quite severe.
   [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2168-8-14**] 16:14 ------
   The above note reflects 30 minutes spent in the care of this critically
   ill patient.
   [**First Name8 (NamePattern2) 711**] [**Last Name (NamePattern1) 712**], MD
   ------ Protected Section Addendum Entered By:[**Name (NI) 711**] [**Last Name (NamePattern1) 712**], MD
   on:[**2168-8-14**] 16:24 ------

2168-08-15 07:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2168-8-14**].
   - fentanyl patch stopped to evaluate for ?improvement of mental status
   off sedating meds
   - ID recs: send bone biopsy for gram stain & culture, fungal stain &
   culture, AFB stain & culture, gross pathology, and hold a specimen at
   mirco (refridgerated and unfixed) for possible future ribosomal studies
   - Review of OSH records show that he had a coag-negative staph on [**6-3**] bacteremia at [**Hospital1 959**].  He also had coag negative staph bacteremia at
   [**Hospital1 25**] approximately one week ago.  Re-faxed med record requests to
   [**Hospital1 959**] and [**Hospital1 25**] for records of positive blood cultures.  [**Hospital1 959**]
   records show positive culture on [**2168-6-17**].
   - CK 27
   - galactomannan still pending
   - put in request for foley catheter to be swapped with G-tube by IR
   tomorrow at time of bone biopsy
   - patient had 2 episodes of emesis without high residuals, tube feeds
   held given that he is awaiting a procedure anyway
   -Neuro IR on vacation, cannot do bone bx.
   -Will have G-tube placed today.
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-14**] 08:26 PM
   Lorazepam (Ativan) - [**2168-8-14**] 09:37 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to assess
   Flowsheet Data as of  [**2168-8-15**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.6
C (99.7
   HR: 105 (80 - 106) bpm
   BP: 166/78(98) {130/55(70) - 177/88(101)} mmHg
   RR: 19 (16 - 29) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,287 mL
                                                                    527 mL
   PO:
             TF:
                                                                  1,803 mL
                                                                    208 mL
   IVF:
                                                                    824 mL
                                                                    290 mL
   Blood products:
   Total out:
                                                                    947 mL
                                                                    363 mL
   Urine:
                                                                    947 mL
                                                                    363 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,340 mL
                                                                    164 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 484 (484 - 872) mL
   PS : 8 cmH2O
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///22/
   Ve: 11 L/min
   Physical Examination
   General Appearance: Well nourished, obese,trached
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   370 K/uL
   9.4 g/dL
   204 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   23 mg/dL
   100 mEq/L
   133 mEq/L
   28.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
   WBC
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   Hct
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   Plt
   373
   406
   415
   396
   350
   351
   367
   346
   370
   Cr
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   Glucose
   197
   227
   217
   244
   166
   186
   235
   181
   215
   204
   Other labs: PT / PTT / INR:12.8/60.5/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/41, Alk Phos / T Bili:303/0.7, Amylase / Lipase:/24,
   Differential-Neuts:77.4 %, Lymph:17.4 %, Mono:2.4 %, Eos:2.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:315 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers secondary to Osteomyelitis/myositis.
   .
   Osteo/Myositis.  L-spine MRI shows likely discitis/osteomyelitis and
   myositis and has had persistent fevers for two months.   ID
   recommending bone biopsy, which will likely be done by IR in AM.  Ortho
   feels this may be discitis rather than osteo.  ESR and CRP are markedly
   elevated.  CK is low in spite of radiographic evidence of lumbar
   myositis.
   - no abx pending Bone biopsy, however unable to  be obtained today.
   Rads suggests repeat MRI.
   - consider tagged WBC scan if bone biopsy is negative
   - vanco/cipro/flagyl if decompensating
   - appreciate ID recs, will ask ID re: abx in setting of bone bx not
   occurring.
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also hasOSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Vomiting-will obtain KUB, hold TFs, zofran.
   -lipase
   .
   Rhonchi-could be related to aspiration. Will obtain CXR.
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis
   - haldol prn agitation though not requiring any
   - monitor mental status
   - d/c fentanyl patch as patient is currently denying pain
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatica which is well controlled with
   fentanyl.   -LS MRI suggests osteo, discitis, myositis as well.
   - d/c fentanyl patch with hopes for improvement of mental status
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - begin bridging to coumadin after procedures (bone biopsy) have been
   completed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition: holding TFs for now
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin iV
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2168-08-15 10:24:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57 yo w/ chronic resp failure s/p trach, w/ tracheobronchomalacea (TBM)
   and sleep-disordered breathing. Admitted to [**Hospital1 5**] for further eval of
   IP intevention for TBM, but w/ FUO for several months, found to have
   possible sacral osteomyelitis +/- discitis and myositis.
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-14**] 08:26 PM
   Lorazepam (Ativan) - [**2168-8-14**] 09:37 PM
   Other medications:
   Vit D, Prevacid, CaHCO3, Fentnyl patch, metoprolol, Peridex, RISS,
   diltiazem
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-15**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.4
C (97.6
   HR: 92 (80 - 106) bpm
   BP: 148/70(87) {130/55(70) - 177/90(109)} mmHg
   RR: 17 (16 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 135 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,287 mL
                                                                    723 mL
   PO:
             TF:
                                                                  1,803 mL
                                                                    208 mL
   IVF:
                                                                    824 mL
                                                                    365 mL
   Blood products:
   Total out:
                                                                    947 mL
                                                                    483 mL
   Urine:
                                                                    947 mL
                                                                    483 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,340 mL
                                                                    240 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 697 (484 - 872) mL
   PS : 8 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 39
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///22/
   Ve: 13.3 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: trach site c/d/i
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: No(t)
   Clear : , No(t) Crackles : , Rhonchorous: coarse bilateral)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed, lethargic, less responsive tody
   Labs / Radiology
   9.4 g/dL
   370 K/uL
   204 mg/dL
   1.1 mg/dL
   22 mEq/L
   3.7 mEq/L
   23 mg/dL
   100 mEq/L
   133 mEq/L
   28.0 %
   9.2 K/uL
        [image002.jpg]
                             [**2168-8-7**]  03:22 AM
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
   WBC
   9.4
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   Hct
   32.3
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   Plt
   373
   406
   415
   396
   350
   351
   367
   346
   370
   Cr
   0.9
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   Glucose
   197
   227
   217
   244
   166
   186
   235
   181
   215
   204
   Other labs: PT / PTT / INR:12.8/60.5/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/41, Alk Phos / T Bili:303/0.7, Amylase / Lipase:/24,
   Differential-Neuts:77.4 %, Lymph:17.4 %, Mono:2.4 %, Eos:2.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.1 g/dL, LDH:315 IU/L, Ca++:9.5 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.8 mg/dL
   Assessment and Plan
   57 yo w/ chronic resp failure s/p trach, w/ tracheobronchomalacea (TBM)
   and sleep-disordered breathing. Admitted to [**Hospital1 5**] for further eval of
   IP intevention for TBM, but w/ FUO for several months, found to have
   possible sacral osteomyelitis +/- discitis and myositis.
   FUO: possible osteomyelitis +/- discitis +/- myositis
   -plan for bone bx today, poss wbc scan if neg
   -off abx till bone bx done
   Chronic resp failure: s/p trach w/ TBM and sleep disordered breathing,
   rhonchi on exam today following nausea and vomiting
   -CXR today, HOB up
   -plan for IP intevention following ID workup as above
   -trach collar by day, PSV by night
   Mulitfocal atrial tachycardia:
   -rate control w/ diltiazem and tachycardia
   RIJ thrombus: on heparin gtt, coumadin once procedures done
   Nausea/vomting: benign exam, monitor for obstruction
   -check LFTs and lipase
   -KUB
   Remainder of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held for procedure today
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 57M morbid obesity, chronic respiratory
   failure, fevers / sepsis possibly from osteo. Two episodes of emesis,
   TFs are on hold.
   Exam notable for Tm 99.7 BP 140/70 HR 90 RR 18 with sat 99 on PSV 8/5.
   Obese man, NAD. Coarse BS, new ronchi B. RRR s1s2. Soft +BS. 2+ edema.
   R power PICC. Labs notable for WBC 9K, HCT 28, K+ 3.7, Cr 1.1.
   Agree with plan to manage recurrent fevers with bone bx for possible
   osteo - will confirm with IR today, ID input appreciated, will hold off
   on abx for now. For chronic respiratory failure, continue TM trials
   with low level PSV overnight; at some point, may benefit from tracheal
   stent. Continue dilt and metoprolol for MAT. Will need G-tube replaced
   by IR today. Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 35 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 749**], MD
   on:[**2168-8-15**] 12:58 ------

2168-08-16 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fevers
   24 Hour Events:
   [**2168-8-15**]
   -neuro IR attd away this wk so no bx, MSK attd contact[**Name (NI) **] who suggested
   repeat MRI to confirm osteo prior to consideration of bx.
   -notified ID of above. Suggest likely tagged wbc scan, if area does not
   light up then unlikely to be osteo can discuss tomorrow.
   -KUB/antiemetic/lfts/lipase ordered for emesis. TF held.
   -should be going to IR for official G-tube, heparin still held
   -pt with green sputum, send for cx
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-8-16**] 04:00 AM
   Lorazepam (Ativan) - [**2168-8-16**] 06:01 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-16**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 82 (76 - 104) bpm
   BP: 145/69(84) {103/37(58) - 191/90(109)} mmHg
   RR: 22 (14 - 29) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  1,159 mL
                                                                    982 mL
   PO:
             TF:
                                                                    208 mL
   IVF:
                                                                    801 mL
                                                                    922 mL
   Blood products:
   Total out:
                                                                  1,088 mL
                                                                    390 mL
   Urine:
                                                                  1,088 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     71 mL
                                                                    592 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 525 (485 - 697) mL
   PS : 8 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 14 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 12.8 L/min
   Physical Examination
   General Appearance: Well nourished, obese,trached
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: No(t) Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   359 K/uL
   8.4 g/dL
   193 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   135 mEq/L
   24.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
   WBC
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   Hct
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   Plt
   [**Telephone/Fax (3) **]50
   [**Telephone/Fax (2) 8124**]70
   359
   Cr
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   Glucose
   227
   217
   244
   166
   186
   235
   181
   215
   204
   193
   Other labs: PT / PTT / INR:12.9/60.5/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:45/41, Alk Phos / T Bili:263/0.9, Amylase / Lipase:/31,
   Differential-Neuts:71.4 %, Lymph:20.6 %, Mono:4.8 %, Eos:2.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:254 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers secondary to Osteomyelitis/myositis.
   .
   FUO
 now think it is likely secondary to osteo, as discussed below.
   Not definite, though.  Fever curve trending down this week, no spikes
   since [**8-9**].  Continue to monitor, and continue to pursue osteo workup
   with WBC scan.
   .
   Osteo/Myositis.  L-spine MRI shows likely discitis/osteomyelitis and
   myositis and has had persistent fevers for two months.   ID
   recommending bone biopsy, which will likely be done by IR hopefully at
   some point.  Ortho feels this may be discitis rather than osteo.  ESR
   and CRP are markedly elevated.  CK is low in spite of radiographic
   evidence of lumbar myositis.
   - no abx pending Bone biopsy, although awaiting bx next week.
   - will do WBC tagged scan to assess L5/S1 in setting of somewhat
   equivocal MRI
   - vanco/cipro/flagyl if decompensating
   - appreciate ID recs, will ask ID re: abx in setting of bone bx not
   occurring.
   .
   Increased Sputum Production
 no fever, leukocytosis, although GS on
   sputum shows GNRs, which have not been present before.  No abx for now,
   continue to monitor clinically.  If new high fever or respiratory
   decompensation, would cover broadly for VAP.
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Vomiting- KUB equivocal, no obvious reason, having bowel movements.
   LFTs mildly elevated, lipase normal.
   -restart tube feeds after replaced in IR today (foley switched to
   actually GTube)
   - monitor clinically, worrisome for possible aspiration after he
   vomitted
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis
   - haldol prn agitation though not requiring any
   - monitor mental status
   - d/c fentanyl patch as patient is currently denying pain
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - d/c fentanyl patch with hopes for improvement of mental status
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - begin bridging to coumadin after procedures (bone biopsy) have been
   completed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-08-16 10:41:00 Physician Attending Progress Note
Chief Complaint: fevers, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with recent pna, s/p trach, peg, FUO, vent dependence, initially
   came to [**Hospital1 5**] in the setting of higher fevers, from ?UTI vs. osteo,
   TBM:
   24 Hour Events:
   Vomiting - kub unremark, tf held
   Change in sputum color.
   No fevers
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-8-16**] 04:00 AM
   Lorazepam (Ativan) - [**2168-8-16**] 06:01 AM
   Other medications:
   iprart, calcium, lansopr, vit d, heparin gtt, dilt 90 qid, chlorhex,
   fent td, riss, albuterol prn, ativan prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever, No(t) Weight loss
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain, Emesis
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-16**] 10:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.3
   HR: 87 (76 - 104) bpm
   BP: 154/79(90) {103/37(58) - 191/79(99)} mmHg
   RR: 18 (14 - 32) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 135 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  1,159 mL
                                                                  1,434 mL
   PO:
             TF:
                                                                    208 mL
   IVF:
                                                                    801 mL
                                                                  1,329 mL
   Blood products:
   Total out:
                                                                  1,088 mL
                                                                    450 mL
   Urine:
                                                                  1,088 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     71 mL
                                                                    984 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 765 (485 - 765) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: ///23/
   Ve: 11.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Wheezes : r>l)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended, foley
   instead of gtube
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   359 K/uL
   193 mg/dL
   1.2 mg/dL
   23 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   135 mEq/L
   24.9 %
   9.4 K/uL
        [image002.jpg]
                             [**2168-8-7**]  02:14 PM
                             [**2168-8-8**]  03:54 AM
                             [**2168-8-9**]  03:39 AM
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
   WBC
   11.1
   12.2
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   Hct
   33.3
   34.0
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   Plt
   [**Telephone/Fax (3) **]50
   [**Telephone/Fax (2) 8124**]70
   359
   Cr
   0.9
   0.8
   0.9
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   Glucose
   227
   217
   244
   166
   186
   235
   181
   215
   204
   193
   Other labs: PT / PTT / INR:12.9/60.5/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:45/41, Alk Phos / T Bili:263/0.9, Amylase / Lipase:/31,
   Differential-Neuts:71.4 %, Lymph:20.6 %, Mono:4.8 %, Eos:2.7 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:254 IU/L, Ca++:9.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Imaging: cxr yesterday: ?new RLL infiltrate; persistent retrocardiac
   opacity
   Microbiology: sputum cx: pending
   Assessment and Plan
   53M with fevers, resp failure, tbm, possible osteo but no diagnostic
   procedure at this time; fever curve down off abx:
   fevers: likely osteo but no procedure. interestingly, fever curve down
   off antibiotics
   -wbc scan
   -further discussions with IR and surgeons after wbc scan results and
   re-interpretation
   -fu id recs
   ?PNA:
   -fu cultures
   -holding abx untill spikes
   -cxr in am or if clinical change
   tbm: ?needs stent per IP
   -awaiting completion of fever work-up
   arf: elevated
   -gently hydration
   altered mental status:
   -cont to monitor
   ij thrombus:
   -heparin; considering lovenox
   -to coumadin when stable after all procedures
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: 57M morbid obesity, chronic respiratory
   failure, TBM, fevers of unclear origin, possibly from osteo.
   Exam notable for Tm 99.6 BP 140/70 HR 70-100 RR 14-29 with sat 99 on
   PSV 8/5. Obese man, NAD, minimally responsive. Coarse BS, new ronchi B.
   RRR s1s2. Soft +BS. 2+ edema. R power PICC. Labs notable for WBC 9K,
   HCT 25, K+ 3.9, Cr 1.2.
   Agree with plan to manage recurrent fevers with WBC scan as next step
   as IR unsure of significance of MRI finding as well as feasibility of
   bone bx. ID input appreciated, will hold off on abx for now. For
   chronic respiratory failure, continue TM trials with low level PSV
   overnight; at some point, may benefit from tracheal stent - will
   clarify with IP team today. He may well have recurrent VAP after
   aspiration based on secretions, but CXR, WBC, and vent requirements are
   stable. Continue dilt and metoprolol for MAT, and heparin for RIJ
   thrombus. Will need G-tube replaced by IR today. Remainder of plan as
   outlined above.
   Patient is critically ill
   Total time: 35 min

2168-08-17 07:39:00 Physician Resident Progress Note
Chief Complaint: FUO, respiratory failure
   24 Hour Events:
 PEG INSERTION - At [**2168-8-16**] 11:00 AM
   pt to IR FOR PEG PLACEMENT
   -
   [**2168-8-16**]
   - had GT replaced, restarted TFs and tolerated well; no vomitting
   - tolerated trach mask throughout day
   - continues to have thick green secretions
   - IP called, wants to do more formal testing pre-stenting, so plan on
   seeing him as outpatient about 1 month after discharge, we should call
   or text page fellow [**Doctor Last Name 8142**] when he is ready for rehab and they will call
   and set up the appointment
   - discussed case with nuclear medicine, plan to do the tagged WBC scan
   later this week
   - looked tired around 3am, more tachypneic - ABG 7.45/30/72
   - tolerated trach mask all night, though, did not need to put on PS
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy, Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-16**] 10:46 PM
   Other medications:
   Zofran
   ISS
   Fentanyl patch
   Metoprolol 25 TID
   Diltiazem 90 QID
   Ativan
   Heparin Drip
   Haldol
   Tylenol
   Vitamin D
   Lansoprazole
   Miconazole powder
   Calcium Carbonate
   Albuterol/ Atrovent
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-17**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 102 (83 - 104) bpm
   BP: 167/75(95) {117/60(74) - 175/100(110)} mmHg
   RR: 25 (18 - 32) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,236 mL
                                                                  1,650 mL
   PO:
             TF:
                                                                    349 mL
                                                                    465 mL
   IVF:
                                                                  3,522 mL
                                                                    985 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    520 mL
   Urine:
                                                                    965 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,271 mL
                                                                  1,130 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 765 (765 - 765) mL
   PS : 8 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.45/30/72/18/-1
   Ve: 11.4 L/min
   PaO2 / FiO2: 144
   Physical Examination
   GEN: NAD
   HEENT: trached, EOMI
   CV: RRR, no m/r/g
   Pulm: rhonchi b/l
   Abd: Obese, soft, NT + Bowel sounds, + G-tube
   Ext: trace edema
   Labs / Radiology
   384 K/uL
   8.6 g/dL
   280
   1.0 mg/dL
   18 mEq/L
   3.8 mEq/L
   22 mg/dL
   105 mEq/L
   134 mEq/L
   26.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
   WBC
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   Hct
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   Plt
   396
   350
   351
   367
   346
   370
   359
   384
   Cr
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   TCO2
   21
   Glucose
   166
   186
   235
   181
   [**Telephone/Fax (2) 8143**]18
   280
   Other labs: PT / PTT / INR:13.0/28.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:70.6 %, Lymph:22.3 %, Mono:4.1 %, Eos:2.9 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Galactomannan - negative
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers secondary to Osteomyelitis/myositis.
   .
   FUO
 now think it is likely secondary to osteo, as discussed below.
   Not definite, though.  Fever curve trending down this week, no spikes
   since [**8-9**].  Continue to monitor, and continue to pursue osteo workup
   with WBC scan.
   .
   Osteo/Myositis.  L-spine MRI shows likely discitis/osteomyelitis and
   myositis and has had persistent fevers for two months.   ID
   recommending bone biopsy, which will likely be done by IR hopefully at
   some point.  Ortho feels this may be discitis rather than osteo.  ESR
   and CRP are markedly elevated.  CK is low in spite of radiographic
   evidence of lumbar myositis.
   - no abx pending Bone biopsy, although awaiting bx next week.
   - will do WBC tagged scan to assess L5/S1 in setting of somewhat
   equivocal MRI
   - vanco/cipro/flagyl if decompensating
   - appreciate ID recs, will ask ID re: abx in setting of bone bx not
   occurring.
   .
   Increased Sputum Production
 no fever, leukocytosis, although GS on
   sputum shows GNRs, which have not been present before.  No abx for now,
   continue to monitor clinically.  If new high fever or respiratory
   decompensation, would cover broadly for VAP.
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Vomiting- KUB equivocal, no obvious reason, having bowel movements.
   LFTs mildly elevated, lipase normal.
   -restart tube feeds after replaced in IR today (foley switched to
   actually GTube)
   - monitor clinically, worrisome for possible aspiration after he
   vomitted
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis
   - haldol prn agitation though not requiring any
   - monitor mental status
   - d/c fentanyl patch as patient is currently denying pain
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - d/c fentanyl patch with hopes for improvement of mental status
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - begin bridging to coumadin after procedures (bone biopsy) have been
   completed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-17**] 02:30 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2168-08-17 10:38:00 Physician Attending Progress Note
Chief Complaint: fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with complex long hospitalizations, FUO, TBM, possible sacral osteo
   but
   24 Hour Events:
   - IP discussion, no stent for now (awaiting clarification of sx) esp
   now off vent
   - remained on Trach Mask (abg ok despite tachypnea)
   - peg replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-16**] 10:46 PM
   Other medications:
   atrovent, calcium carbonate, lanzopr, dilt, lopr, riss
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-17**] 10:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.6
C (99.6
   HR: 94 (83 - 104) bpm
   BP: 149/69(90) {117/60(74) - 175/100(110)} mmHg
   RR: 30 (19 - 32) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,236 mL
                                                                  1,871 mL
   PO:
             TF:
                                                                    349 mL
                                                                    611 mL
   IVF:
                                                                  3,522 mL
                                                                  1,000 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    715 mL
   Urine:
                                                                    965 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,271 mL
                                                                  1,156 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 98%
   ABG: 7.45/30/72/18/-1
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, No(t) NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: coarse bibasilar without wheezing but with
   prolonged exp phase
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   384 K/uL
   280
   1.0 mg/dL
   18 mEq/L
   3.8 mEq/L
   22 mg/dL
   105 mEq/L
   134 mEq/L
   26.5 %
   8.6 K/uL
        [image002.jpg]
                             [**2168-8-10**]  05:33 AM
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
   WBC
   10.6
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   Hct
   32.0
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   Plt
   396
   350
   351
   367
   346
   370
   359
   384
   Cr
   0.9
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   TCO2
   21
   Glucose
   166
   186
   235
   181
   [**Telephone/Fax (2) 8143**]18
   280
   Other labs: PT / PTT / INR:13.0/28.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:70.6 %, Lymph:22.3 %, Mono:4.1 %, Eos:2.9 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.7 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Imaging: not new
   Microbiology: ngtd
   Assessment and Plan
   57M with FUO now resolving, possible osteo but now s/p many days of abx
   and afebrile, severe TBM, and possible evolving VAP:
   dyspnea: likely tbm
   -will try cpap now
   -check bnp
   -mechanical advantage from sitting
   -will speak to IP again about possible stent if no alternative
   explanation is identified
   fuo/osteo
   -awaiting wbc scan
   -no procedures at this time
   -no abx at this time
   ij thrombus
   -restart heparin gtt
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-08-18 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fevers
   24 Hour Events:
 PAN CULTURE - At [**2168-8-17**] 12:16 PM
   [**2168-8-17**].
   - febrile to 100.8; cultures sent
   - worsening respiratory secretions, new LLL infiltrate on CXR and had
   low grad fever, so was started on vanco/cefepime for treatment of VAP
   with plan to tailor abx pending sputum culture results.  Spoke with ID
   re: Abx approval which they gave, but then forgot to enter it.  Will
   need to remind them this morning.
   - UA also positive even post-foley catheter replacement
   - blood culture through picc positive for GNRs in aerobic bottle
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-17**] 06:54 PM
   Cefipime - [**2168-8-17**] 10:00 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-17**] 05:56 PM
   Lorazepam (Ativan) - [**2168-8-18**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-18**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.4
C (99.4
   HR: 88 (84 - 101) bpm
   BP: 135/59(78) {116/44(64) - 164/78(136)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,101 mL
                                                                    902 mL
   PO:
             TF:
                                                                  1,708 mL
                                                                    550 mL
   IVF:
                                                                  1,682 mL
                                                                    222 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    310 mL
   Urine:
                                                                  1,245 mL
                                                                    310 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,856 mL
                                                                    592 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 555 (436 - 555) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 14.2 L/min
   Physical Examination
   GEN: NAD
   HEENT: trached, EOMI
   CV: RRR, no m/r/g
   Pulm: rhonchi b/l
   Abd: Obese, soft, NT + Bowel sounds, + G-tube
   Ext: trace edema
   Labs / Radiology
   387 K/uL
   8.3 g/dL
   201 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   24 mg/dL
   106 mEq/L
   135 mEq/L
   25.6 %
   8.3 K/uL
         [image002.jpg]
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
   WBC
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   Hct
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   Plt
   350
   351
   367
   346
   370
   359
   384
   387
   Cr
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   TCO2
   21
   Glucose
   186
   235
   181
   [**Telephone/Fax (2) 8159**]
   Other labs: PT / PTT / INR:13.3/68.9/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:65.2 %, Lymph:26.8 %, Mono:4.2 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers of unclear etiology but possibly secondary to
   Osteomyelitis/myositis.
   .
   VAP.  Pt with fever,LLL infiltrate, and positive sputum culture.
   Started on vanco/cefepime yesterday.
   - await final culture data and sensitivies
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   .
   Bacteremia.  Pt with positive blood culture with e.coli; source at this
   time unknown, although could be from pneumonia (as sputum is growing
   GNRs) or could be from urine, as UA positive, cultures pending.
   - continue vanco/cefepime as above
   - follow up cultures
   - continue with PICC line for now, if continued fevers need to consider
   removing
   .
   FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - abx as above
   - wbc scan today
   - if negative, can consider all his fevers to maybe be just part all
   his hospital acquired infections
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis
   - haldol prn agitation though not requiring any
   - monitor mental status
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - begin bridging to coumadin after procedures (bone biopsy) have been
   completed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-18**] 04:19 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-08-18 11:49:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with obesity, DM, OSA, and severe TBM, s/p trach, initially with
   persistent fevers from possible osteo, now with recurrent fevers,
   likely from VAP, and bacteremia:
   24 Hour Events:
   -febrile, started on abx for VAP tx
   -GNR bacteremia
   -wbc scan completed today
   History obtained from Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-17**] 06:54 PM
   Cefipime - [**2168-8-18**] 08:45 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Heparin Sodium - [**2168-8-17**] 05:56 PM
   Lorazepam (Ativan) - [**2168-8-18**] 10:45 AM
   Other medications:
   atrovent, ca, lansoprazole, vit d, heparin gtt, dilt, lopressor,
   chlorhex, fent 50, riss and fixed, vanco, cef
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: Tachypnea
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-18**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.3
C (99.1
   HR: 85 (84 - 101) bpm
   BP: 141/72(83) {116/44(64) - 159/78(136)} mmHg
   RR: 21 (17 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,101 mL
                                                                  1,499 mL
   PO:
             TF:
                                                                  1,708 mL
                                                                    861 mL
   IVF:
                                                                  1,682 mL
                                                                    448 mL
   Blood products:
   Total out:
                                                                  1,245 mL
                                                                    510 mL
   Urine:
                                                                  1,245 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,856 mL
                                                                    989 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 592 (436 - 592) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 83
   PIP: 14 cmH2O
   Plateau: 11 cmH2O
   SpO2: 100%
   ABG: ///19/
   Ve: 12.4 L/min
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Cardiovascular: nl s1s2, regular, no m
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), coarse bilateral
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.3 g/dL
   387 K/uL
   201 mg/dL
   1.1 mg/dL
   19 mEq/L
   4.1 mEq/L
   24 mg/dL
   106 mEq/L
   135 mEq/L
   25.6 %
   8.3 K/uL
         [image002.jpg]
                             [**2168-8-11**]  05:54 AM
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
   WBC
   10.1
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   Hct
   29.9
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   Plt
   350
   351
   367
   346
   370
   359
   384
   387
   Cr
   0.8
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   TCO2
   21
   Glucose
   186
   235
   181
   [**Telephone/Fax (2) 8159**]
   Other labs: PT / PTT / INR:13.3/68.9/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:65.2 %, Lymph:26.8 %, Mono:4.2 %, Eos:3.5 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:9.8 mg/dL,
   Mg++:2.0 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr: improved RLL opacity after positive pressure, although
   retrocardiac opacity remains
   Microbiology: bcx -- gnr
   sputum cx -- gnr, pending
   Assessment and Plan
   57M with obesity, DM, OSA, and severe TBM, s/p trach, initially with
   persistent fevers from possible osteo, now with recurrent fevers,
   likely from VAP, and bacteremia:
   fevers: bacteremia / vap
   -awaiting cultures
   -cont vanco and ceftaz for now
   -will hold off on replacing PICC since looks OK but may need to replace
   it
   -will d/w ID
   resp failure: TBM and now VAP
   -cont trial of trach mask by day when more awake
   ?osteo:
   -awaiting wbc scan, although intepretation now complicated by
   bacteremia and vap
   dm2
   -cont riss
   Right IJ Throbus
   -cont lovenox
   delirium: now with new infection
   -cont reorientation by family
   -decrease fentanyl if not necessary / tolerates, although didn
   tolerate having it off
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-18**] 04:19 AM 75 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-08-19 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: fevers
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2168-8-18**] 09:00 AM
 BLOOD CULTURED - At [**2168-8-18**] 01:00 PM
 BLOOD CULTURED - At [**2168-8-19**] 04:15 AM
   BC X 2
 FEVER - 101.3
F - [**2168-8-18**] 08:00 AM
   [**2168-8-18**]
   -WBC scan-NO uptake in lumbar spine. Other areas of non-specific
   enhancement. Please see report
   -sputum/bcx with GNR, awaiting speciation
   -ordered bowel reg.
   -added CIPRO for better GNR coverage.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2168-8-18**] 08:00 PM
   Vancomycin - [**2168-8-18**] 08:30 PM
   Ciprofloxacin - [**2168-8-18**] 10:00 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-18**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-19**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 37.8
C (100.1
   HR: 84 (83 - 91) bpm
   BP: 148/58(73) {107/50(68) - 161/72(84)} mmHg
   RR: 20 (19 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,260 mL
                                                                    897 mL
   PO:
             TF:
                                                                  1,626 mL
                                                                    567 mL
   IVF:
                                                                  1,094 mL
                                                                    230 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    430 mL
   Urine:
                                                                  1,155 mL
                                                                    430 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,105 mL
                                                                    467 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 472 (472 - 472) mL
   PS : 0 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 8 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 10.4 L/min
   Physical Examination
   GEN: NAD
   HEENT: trached, EOMI
   CV: RRR, no m/r/g
   Pulm: rhonchi b/l
   Abd: Obese, soft, NT + Bowel sounds, + G-tube
   Ext: trace edema
   Labs / Radiology
   388 K/uL
   7.8 g/dL
   117 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   26 mg/dL
   105 mEq/L
   133 mEq/L
   24.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
   WBC
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   Hct
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   Plt
   [**Telephone/Fax (3) 8124**]70
   359
   384
   387
   388
   Cr
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   TCO2
   21
   Glucose
   235
   181
   215
   [**Telephone/Fax (3) **]
   280
   201
   117
   Other labs: PT / PTT / INR:12.8/75.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:63.5 %, Lymph:25.0 %, Mono:5.2 %, Eos:6.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers of unclear etiology but possibly secondary to
   Osteomyelitis/myositis.
   .
   VAP.  Pt with fever,LLL infiltrate, and positive sputum culture.
   Started on vanco/cefepime yesterday.
   - cipro started per ID recs, as well
   - await final culture data and sensitivies
 is enterobacter and MRSA
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   .
   Bacteremia.  Pt with positive blood culture with GNRs, source at this
   time unknown, although could be from pneumonia (as sputum and might be
   enterobacter) or could be from urine, as UA positive, cultures negative
   except for yeast in urine.
   - continue vanco/cefepime as above
   - continue with PICC line for now, if continued fevers need to consider
   removing
   .
   FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - tagged wbc scan negative
   - will now need to treat current infx as above and then reevaluate
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis.  Has worsening mental status today,
   unclear why.
   - haldol prn agitation though not requiring any
   - stop ativan and decrease Fentanyl patch
   - if not improving, consider head CT
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - will start coumadin tonight if mental status improved and not worried
   about head bleed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-18**] 08:01 PM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-08-19 12:40:00 Physician Attending Progress Note
Chief Complaint: fevers, delta ms
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with 2 months of AMS, fevers, who is trached and peged here for
   fevers, respiratory failure, with severe TBM, now with new VAP and
   bacteremia:
   24 Hour Events:
   -WBC scan-NO uptake in lumbar spine. Other areas of non-specific
   enhancement
   -sputum/bcx with GNR, awaiting speciation
   -ordered bowel reg
   -added CIPRO for better GNR coverage
   -on CPAP overnight, now on TM once in chair
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2168-8-18**] 08:00 PM
   Vancomycin - [**2168-8-18**] 08:30 PM
   Ciprofloxacin - [**2168-8-18**] 10:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2168-8-18**] 11:30 PM
   Other medications:
   ipratr, heparin gtt, fent patch, riss, vanco iv, cefepime, calcium, vit
   d, metopr, dilt, omepr, cipro po
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: Delirious, Daytime somnolence
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-19**] 12:36 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 88 (83 - 105) bpm
   BP: 153/66(86) {107/50(68) - 180/80(103)} mmHg
   RR: 20 (18 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,261 mL
                                                                  1,443 mL
   PO:
             TF:
                                                                  1,627 mL
                                                                    917 mL
   IVF:
                                                                  1,094 mL
                                                                    366 mL
   Blood products:
   Total out:
                                                                  1,155 mL
                                                                    555 mL
   Urine:
                                                                  1,155 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,106 mL
                                                                    888 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 54
   PIP: 8 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 10.8 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, trach on tm
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed, minimally responsive to nox stim
   Labs / Radiology
   7.8 g/dL
   388 K/uL
   117 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.2 mEq/L
   26 mg/dL
   105 mEq/L
   133 mEq/L
   24.5 %
   6.4 K/uL
        [image002.jpg]
                             [**2168-8-12**]  04:02 AM
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
   WBC
   8.7
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   Hct
   27.6
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   Plt
   [**Telephone/Fax (3) 8124**]70
   359
   384
   387
   388
   Cr
   0.8
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   TCO2
   21
   Glucose
   235
   181
   215
   [**Telephone/Fax (3) **]
   280
   201
   117
   Other labs: PT / PTT / INR:12.8/75.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:63.5 %, Lymph:25.0 %, Mono:5.2 %, Eos:6.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:10.0 mg/dL,
   Mg++:2.0 mg/dL, PO4:4.5 mg/dL
   Microbiology: sputum cx: pending
   bcx: gnr, pending
   Assessment and Plan
   57M with several months of AMS, fevers, who is trached and peged here
   for fevers, respiratory failure, with severe TBM, now with new VAP and
   bacteremia, although less responsive this am, possible due to
   medications:
   bacteremia / vap: ?uti
   -cont current abx until speciation
   -id following
   -vanco level tomorrow
   -repeat glucan still pending
   -persistent funguria, changing foley
   -holding off on changing picc given stability, lower temps, difficult
   access; will reassess pending more culture information
   change in mental status:
   -stop lorazepam
   -stop fentanyl
   -reassess this afternoon need for additional workup
   rij thrombus
   -cont heparin gtt and coumadin
   chronic fevers
   -no new source idenitified by wbc scan; no need for bone bx at this
   time
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-19**] 09:10 AM 75 mL/hour
   Glycemic Control:  RISS
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-08-20 07:56:00 Physician Resident Progress Note
Chief Complaint: FUO
   24 Hour Events:
   [**2168-8-19**]
   - fever curve trending downward
   - sputum growing enterobacter and MRSA
   - was particularly somnulent this morning, but responded to painful
   stimuli; d/c'ed ativan and decreased fentynl patch to 25 mcg
   - was more responsive with family in the afternoon
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-8-18**] 10:00 PM
   Vancomycin - [**2168-8-19**] 08:00 PM
   Cefipime - [**2168-8-19**] 08:55 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-20**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (98.9
   HR: 97 (81 - 103) bpm
   BP: 146/52(76) {107/51(65) - 159/97(102)} mmHg
   RR: 23 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,466 mL
                                                                    905 mL
   PO:
             TF:
                                                                  1,811 mL
                                                                    601 mL
   IVF:
                                                                    996 mL
                                                                    243 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                    860 mL
   Urine:
                                                                  1,345 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,121 mL
                                                                     45 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   PS : 0 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 8 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 14.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   388 K/uL
   8.0 g/dL
   219 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.6 mEq/L
   31 mg/dL
   105 mEq/L
   134 mEq/L
   23.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
   WBC
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   Hct
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   Plt
   367
   346
   370
   359
   384
   387
   388
   388
   Cr
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   TCO2
   21
   Glucose
   181
   215
   204
   193
   [**Telephone/Fax (3) 8185**]
   Other labs: PT / PTT / INR:13.4/93.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:63.5 %, Lymph:25.0 %, Mono:5.2 %, Eos:6.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:11.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   and persistent fevers of unclear etiology but possibly secondary to
   Osteomyelitis/myositis.
   .
   VAP.  Pt with fever,LLL infiltrate, and positive sputum culture.
   Started on vanco/cefepime yesterday.
   - cipro started per ID recs, as well
   - await final culture data and sensitivies
 is enterobacter and MRSA
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   .
   Bacteremia.  Pt with positive blood culture with GNRs, source at this
   time unknown, although could be from pneumonia (as sputum and might be
   enterobacter) or could be from urine, as UA positive, cultures negative
   except for yeast in urine.
   - continue vanco/cefepime as above
   - continue with PICC line for now, if continued fevers need to consider
   removing
   .
   FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - tagged wbc scan negative
   - will now need to treat current infx as above and then reevaluate
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on PS
   overnight
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay.   Patient has ongoing fevers for two months
   likely secondary to osteo/myositis.  Has worsening mental status today,
   unclear why.
   - haldol prn agitation though not requiring any
   - stop ativan and decrease Fentanyl patch
   - if not improving, consider head CT
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain
   .
   Thrombus.  Known to have RIJ thrombus.   Awaiting heparin to coumadin
   bridging.
   - heparin drip
   - will start coumadin tonight if mental status improved and not worried
   about head bleed
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   COMM: wife
   ICU [**Name (NI) 151**]
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-19**] 10:20 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2168-08-20 10:35:00 Physician Attending Progress Note
Chief Complaint: fevers
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with long and complex medical hisptory, 2 month of altered mental
   status, TBM with intermittent vent dependence s/p trach, now with new
   GNR bacteremia, likely VAP, improving slowly on abx:
   24 Hour Events:
   -afebrile
   -mental status improved later in the day
   -TM by day
   -acting angry and agitated this am
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-8-18**] 10:00 PM
   Cefipime - [**2168-8-20**] 08:30 AM
   Vancomycin - [**2168-8-20**] 08:30 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   iv heparin, riss, vanco, cefepime, prevacid, vit, colace, cipro, fent
   25
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: No(t) NPO
   Respiratory: No(t) Cough, Dyspnea, Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2168-8-20**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.2
C (99
   HR: 95 (81 - 103) bpm
   BP: 136/60(80) {107/51(65) - 153/97(102)} mmHg
   RR: 24 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,466 mL
                                                                  1,605 mL
   PO:
             TF:
                                                                  1,811 mL
                                                                    766 mL
   IVF:
                                                                    996 mL
                                                                    560 mL
   Blood products:
   Total out:
                                                                  1,345 mL
                                                                  1,130 mL
   Urine:
                                                                  1,345 mL
                                                                  1,130 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,121 mL
                                                                    475 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 41
   PIP: 11 cmH2O
   SpO2: 100%
   Ve: 12.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Bronchial:
   coarse)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   8.0 g/dL
   388 K/uL
   219 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.6 mEq/L
   31 mg/dL
   105 mEq/L
   134 mEq/L
   23.2 %
   6.7 K/uL
        [image002.jpg]
                             [**2168-8-13**]  04:08 AM
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
   WBC
   10.0
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   Hct
   29.0
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   Plt
   367
   346
   370
   359
   384
   387
   388
   388
   Cr
   0.7
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   TCO2
   21
   Glucose
   181
   215
   204
   193
   [**Telephone/Fax (3) 8185**]
   Other labs: PT / PTT / INR:13.4/93.3/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:41/35, Alk Phos / T Bili:250/1.0, Amylase / Lipase:/31,
   Differential-Neuts:63.5 %, Lymph:25.0 %, Mono:5.2 %, Eos:6.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:3.0 g/dL, LDH:293 IU/L, Ca++:11.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: cxr: persistent left base opacity
   Microbiology: bcx pending
   Assessment and Plan
   57M with prolonged hospital course, with resp failure most recently
   from TBM and VAP, now with GNR bacteremia improved on abx:
   bacteremia/vap: also resp failure
   -cont current abx
   -oob as much as possible
   -no intervention for TBM at this time
   ?ARF: non-oliguric
   -monitor labs, uop
   -vanco by level; renal dose meds
   -bolus
   delirium: ?depression
   -start seroquel at night
   -will ask about depression when family here
   -minimize opiates,  no benzos
   thrombus
   -cont heparin gtt, start coumadin
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-19**] 10:20 PM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU, planning for transfer to rehab next week
   Total time spent: 45 minutes
   Patient is critically ill

2168-08-21 07:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - uncomfortable (tachpneic, labored) on TCM after a few hours, so put
   back on PS during the day
   - resumed celexa (home med) at 20 mg daily, will need to gradually
   up-titrate to home dose of 60 mg daily
   - given 1L NS with goal to improve Creatinine
   History obtained from Medical records
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-20**] 08:30 AM
   Cefipime - [**2168-8-20**] 07:49 PM
   Ciprofloxacin - [**2168-8-20**] 09:53 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain
   Flowsheet Data as of  [**2168-8-21**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.1
C (100.5
   HR: 86 (84 - 100) bpm
   BP: 140/66(83) {102/42(55) - 145/77(86)} mmHg
   RR: 20 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,494 mL
                                                                  1,162 mL
   PO:
             TF:
                                                                  1,846 mL
                                                                    599 mL
   IVF:
                                                                  2,048 mL
                                                                    242 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                    950 mL
   Urine:
                                                                  2,520 mL
                                                                    950 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,974 mL
                                                                    212 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 12.4 L/min
   Physical Examination
   GEN: NAD, trached, following simple commands
   NECK: + trach with copious white secretions
   Pulm: coarse breath sounds bilaterally, no wheezes, no crackles
   CV: RRR, nom/r/g, distant heart sounds
   Abd: obese, soft, NT, + G-tubed
   Ext: + pitting edema b/l
   Labs / Radiology
   371 K/uL
   7.7 g/dL
   152 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.9 mEq/L
   30 mg/dL
   103 mEq/L
   132 mEq/L
   23.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
   WBC
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   6.3
   Hct
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   23.3
   Plt
   346
   370
   359
   384
   387
   388
   388
   371
   Cr
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   1.0
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) 8159**]
   117
   219
   152
   Other labs: PT / PTT / INR:13.7/94.6/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:32/24, Alk Phos / T Bili:261/0.5, Amylase / Lipase:/31,
   Differential-Neuts:62.3 %, Lymph:27.5 %, Mono:5.0 %, Eos:5.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:10.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   found to have VAP and persistent fevers of unclear etiology but
   possibly secondary to Osteomyelitis/myositis.
   .
   VAP.  Pt with fever,LLL infiltrate, and positive sputum culture.  Now
   on vanco/cefepime/cipro to cover enterobacter and MRSA.
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   - continue vanco/cefepime/cipro for now, but can likely do vanco for
   8hrs and cipro for 14 days.
   .
   Bacteremia.  Pt with positive blood culture with GNRs, source at this
   time unknown, although could be from pneumonia (as sputum and might be
   enterobacter) or could be from urine, as UA positive, cultures negative
   except for yeast in urine.
   - continue vanco/cefepime/cipro as above, likely can tailor to cipro
   - continue with PICC line for now, if continued fevers need to consider
   removing
   -will ask for new PICC today, if old removed will send for cx.
   .
   FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - tagged wbc scan negative
   - will now need to treat current infx as above and then reevaluate
   .
   Respiratory failure.  Patient had had difficulty weaning from vent due
   to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on PS
   overnight, doing well with 10 peep o/n.
   .
   Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay. Improving.
   - haldol prn agitation though not requiring any
   - stop ativan and decrease Fentanyl patch
   - if not improving, consider head CT
   - initiate home celexa with plan to uptitrate to prior dose of 60 mg
   daily
   -seroquel 12.5mg qam and 25mg qpm for now.
   .
   MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   .
   DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed, uptitrated [**8-21**]
   - follow FS
   .
    Anemia. Stable.
   - follow Hct
   .
    Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain but at
 dose.
   -appears to be having pain today, will start oxycodone prn.
   .
   Thrombus.  Known to have RIJ thrombus.   Initiating heparin to coumadin
   bridging today.
   - heparin drip
 coumadin briding.
   .
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-21**] 12:20 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2168-08-21 11:13:00 Physician Attending Progress Note
Chief Complaint: fevers, resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with TBM, recurrent PNA, long hospitalization and rehab for resp
   failure and fevers of [**Last Name (un) 657**] origin, now with substantial improvement
   but with vap and bacteremia, improved with abx, awaiting rehab:
   24 Hour Events:
   -mental status improved later in the day; then required haldol for
   agitation
   -slept well!! after seroquel at night
   -more awake and cooperative this am
   -1 liter fluid bolus
   History obtained from Medical records
   Patient unable to provide history: trach
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-20**] 08:30 AM
   Cefipime - [**2168-8-20**] 07:49 PM
   Ciprofloxacin - [**2168-8-20**] 09:53 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   ipratr, heparin gtt, riss, cefepime, lansopr, metopr, dilt, cipro,
   fent, coumadin, seroq, citalopram,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, Fever
   Cardiovascular: Chest pain
   Respiratory: No(t) Cough, No(t) Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia
   Psychiatric / Sleep: Agitated, Delirious
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2168-8-21**] 11:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.9
C (98.5
   HR: 81 (81 - 95) bpm
   BP: 130/53(67) {102/42(55) - 145/115(118)} mmHg
   RR: 15 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  4,495 mL
                                                                  1,594 mL
   PO:
             TF:
                                                                  1,846 mL
                                                                    815 mL
   IVF:
                                                                  2,049 mL
                                                                    339 mL
   Blood products:
   Total out:
                                                                  2,520 mL
                                                                  1,550 mL
   Urine:
                                                                  2,520 mL
                                                                  1,550 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,975 mL
                                                                     46 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP
   PS : 0 cmH2O
   RR (Spontaneous): 26
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI: 50
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 16.7 L/min
   Physical Examination (15:00)
   General Appearance: Overweight / Obese, No(t) Anxious. Comfortable on
   vent.
   Head, Ears, Nose, Throat: Normocephalic, trach
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic). Heart sounds very soft.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: left base), clear
   elsewhere. Diffuse coarse upper airway sounds. Soft expiratory wheeze;
   prolonged expiratory phase. Expiratory muscle recruitment in abdomen.
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: 1+, Left: 1+ edema
   Skin:  Warm
   Neurologic Now somnolent but arousable.
   Labs / Radiology
   7.7 g/dL
   371 K/uL
   152 mg/dL
   1.0 mg/dL
   20 mEq/L
   3.9 mEq/L
   30 mg/dL
   103 mEq/L
   132 mEq/L
   23.3 %
   6.3 K/uL
        [image002.jpg]
                             [**2168-8-14**]  04:33 AM
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
   WBC
   8.1
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   6.3
   Hct
   27.6
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   23.3
   Plt
   346
   370
   359
   384
   387
   388
   388
   371
   Cr
   0.8
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   1.0
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) 8159**]
   117
   219
   152
   Other labs: PT / PTT / INR:13.7/94.6/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:32/24, Alk Phos / T Bili:261/0.5, Amylase / Lipase:/31,
   Differential-Neuts:62.3 %, Lymph:27.5 %, Mono:5.0 %, Eos:5.0 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:10.3 mg/dL,
   Mg++:1.7 mg/dL, PO4:2.8 mg/dL
   Imaging: no new
   Microbiology: bcx: enterobacter, sensitive for fq and cephalosporins
   Assessment and Plan
   57M with recent prolonged fevers, long complex hospitalizations, now
   with VAP and bacteremia but overall improved:
   bacteremia: enterobacter, likely vap source
   -plan to change picc; may need to have temporary central line
   resp failure
   -cont cpap at night
   -tm in chair during the day
   -reassess trach pressures for PMV
   delirium, ?depression
   -continue seroquel 25 at night
   -start seroquel 12.5 qam
   -haldol iv prn for agitated delirium
   -celexa restarted; will uptitrate weekely by 10 mg
   mat:
   -cont dilt and metopr
   dm: poor control
   -increase sliding scale
   anemia of chronic disease / inflammation
   -ntd
   pain control: ?arthritis
   -cont fent td
   -trial of oxocodone prn
   -consider tramadol
   -no nsaids
   rij thrombus
   -heparin to coumadin transition
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-21**] 12:20 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2168-08-22 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -more alert in am. However so alert needed additional 1mg IV haldol and
   12.5mg seroquel. Started prn liquid oxycodone for chronic back/knee/leg
   pain.
   -PT consulted ordered
   -attempting to resite PICC, but IV uncomfortable about low grade temps,
   unable to get peripheral.
   -ordered for 1 unit of prbcs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-20**] 08:30 AM
   Cefipime - [**2168-8-21**] 08:03 PM
   Ciprofloxacin - [**2168-8-21**] 10:27 PM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-22**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 79 (74 - 95) bpm
   BP: 129/51(72) {101/24(46) - 144/115(118)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
           Total In:
                                                                  3,521 mL
                                                                  1,319 mL
   PO:
           TF:
                                                                  1,832 mL
                                                                    562 mL
   IVF:
                                                                    810 mL
                                                                    226 mL
   Blood products:
   150 mL
   Total out:
                                                                  2,510 mL
                                                                    660 mL
   Urine:
                                                                  2,510 mL
                                                                    660 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    659 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 619 (619 - 619) mL
   PS : 0 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 12.5 L/min
   Physical Examination
   GEN: NAD, trached, following simple commands
   NECK: + trach with copious white secretions
   Pulm: coarse breath sounds bilaterally, no wheezes, no crackles
   CV: RRR, nom/r/g, distant heart sounds
   Abd: obese, soft, NT, + G-tubed
   Ext: + pitting edema b/l
   Labs / Radiology
   368 K/uL
   6.9 g/dL
   162 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.9 mEq/L
   33 mg/dL
   109 mEq/L
   136 mEq/L
   21.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
                             [**2168-8-22**]  03:02 AM
   WBC
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   6.3
   6.9
   Hct
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   23.3
   21.2
   Plt
   370
   359
   384
   387
   388
   388
   371
   368
   Cr
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   1.0
   1.3
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) **]80
   [**Telephone/Fax (3) 8219**]
   Other labs: PT / PTT / INR:13.5/91.3/1.2, CK / CKMB / Troponin-T:27//,
   ALT / AST:32/24, Alk Phos / T Bili:261/0.5, Amylase / Lipase:/31,
   Differential-Neuts:64.9 %, Lymph:25.2 %, Mono:5.0 %, Eos:4.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:12.4 mg/dL,
   Mg++:2.5 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   found to have VAP and persistent fevers of unclear etiology but
   possibly secondary to Osteomyelitis/myositis.
   # VAP.  Pt with fever, LLL infiltrate, and positive sputum culture.
   Now on vanco/cefepime/cipro to cover enterobacter and MRSA.
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   - continue vanco/cefepime/cipro for now, but can likely do vanco for 8
   days and cipro for 14 days
   - will recheck vanc level in a.m.
   - ID reccs double coverage for enterobacter but will clarify whether
   able to d/c cefepime or ciprofloxacin
   - f/u ID reccs
   # Bacteremia.  Pt with positive blood culture with GNRs, source at this
   time unknown, although could be from pneumonia or urine.
   - continue vanco/cipro/cefepime as above
   - continue with PICC line for now, if continued fevers need to consider
   removing
   - f/u blood cultures
   # FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - tagged wbc scan negative
   - will now need to treat current infxn as above and then reevaluate
   # Respiratory failure.  Patient had had difficulty weaning from vent
   due to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on CPAP
   overnight, doing well with 10 peep o/n.
   #  Normocytic Anemia. HCT 21.3 this am and s/p transfusion of 1u PRBC
   overnight.  Has been guaiac negative.
   - follow Hct, transfuse <21
   - decrease heparin gtt rate for PTT goal of 60
   - fe c/w inflammatory blockade; will check  b12, folate, stool guaiacs.
   # Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay. Improving.
   - haldol prn agitation though not requiring any
   - stop ativan and decrease Fentanyl patch
   - if not improving, consider head CT
   - initiate home celexa with plan to uptitrate to prior dose of 60 mg
   daily
   -seroquel 12.5mg qam and 25mg qpm for now.
   # MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   # Hypercalcemia:  Calcium level rising to 13 adjusted for albumin from
   normal baseline.
   - will hold calcium and vitamin D for now
   - will defer ionized calcium, vitamin D, PTH, TSH studies for now
   # DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed, uptitrated [**8-21**]
   - follow FS
   # Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain but at
 dose
   - start ultram, lidocaine patch
   # Line-associated thrombus.  Known to have RIJ thrombus.   Initiating
   heparin to coumadin bridging.
   - heparin drip
 coumadin briding
   - will clarify whether patient needs anticoagulation for this
   line-associated thrombus given line no longer present
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-22**] 02:32 AM 75 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-08-22 12:29:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with resp failure, TBM, initially FUO now resolved, recent VAP with
   GNR bacteremia, now improved on abx:
   24 Hour Events:
   -more awake but now unable to tolerate sitting in chair
   -prbc 1 U now
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-20**] 08:30 AM
   Ciprofloxacin - [**2168-8-21**] 10:27 PM
   Cefipime - [**2168-8-22**] 08:00 AM
   Infusions:
   Heparin Sodium - 2,150 units/hour
   Other ICU medications:
   Other medications:
   seroq 25/12.5, colace, fent 25, cipro, colace, dilt, metopr, vitd,
   prevacid, ca, cefepime, riss, heparin gtt, coumadin, alb/ipratr,
   oxycodone prn
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Cardiovascular: No(t) Chest pain
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough, Tachypnea
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-22**] 12:24 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 77 (74 - 95) bpm
   BP: 103/71(77) {101/24(46) - 144/71(80)} mmHg
   RR: 20 (16 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
           Total In:
                                                                  3,523 mL
                                                                  1,974 mL
   PO:
           TF:
                                                                  1,832 mL
                                                                    903 mL
   IVF:
                                                                    812 mL
                                                                    423 mL
   Blood products:
   268 mL
   Total out:
                                                                  2,510 mL
                                                                  1,060 mL
   Urine:
                                                                  2,510 mL
                                                                  1,060 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,013 mL
                                                                    914 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 670 (619 - 670) mL
   PS : 0 cmH2O
   RR (Spontaneous): 31
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 30
   PIP: 7 cmH2O
   SpO2: 100%
   ABG: ///18/
   Ve: 18.4 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: left base)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, No(t) Oriented (to): , Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   6.9 g/dL
   368 K/uL
   162 mg/dL
   1.3 mg/dL
   18 mEq/L
   4.9 mEq/L
   33 mg/dL
   109 mEq/L
   136 mEq/L
   21.2 %
   6.9 K/uL
        [image002.jpg]
                             [**2168-8-15**]  03:47 AM
                             [**2168-8-16**]  04:46 AM
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
                             [**2168-8-22**]  03:02 AM
   WBC
   9.2
   9.4
   8.6
   8.3
   6.4
   6.7
   6.3
   6.9
   Hct
   28.0
   24.9
   26.5
   25.6
   24.5
   23.2
   23.3
   21.2
   Plt
   370
   359
   384
   387
   388
   388
   371
   368
   Cr
   1.1
   1.2
   1.0
   1.1
   1.1
   1.2
   1.0
   1.3
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) **]80
   [**Telephone/Fax (3) 8219**]
   Other labs: PT / PTT / INR:13.5/91.3/1.2, ALT / AST:32/24, Alk Phos / T
   Bili:261/0.5, Amylase / Lipase:/31, Differential-Neuts:64.9 %,
   Lymph:25.2 %, Mono:5.0 %, Eos:4.6 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:12.4 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.3 mg/dL
   Microbiology: bcx with enterococcus
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 OSTEOMYELITIS
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   57M with resp failure, TBM, initially FUO now resolved, recent VAP with
   GNR bacteremia, now improved on abx:
   vap and bacteremia
   -cont cipro, cefepime, and vancomycin for 2 weeks though need to
   discuss with ID choice of abx given new data
   resp failure
   -cont cpap at night and tm when in chair
   anemia: no clear source of bleeding
   -prbc now, will monitor here overnight
   rij thrombus
   -clarify need for anticoagulation given d/c of [**Last Name (LF) 2990**], [**First Name3 (LF) 124**] check USG
   today
   delirium is improving
   -cont seroquel
   pain / sciatica?
   -cont fent td
   -cont oxycodone prn, esp before chair
   -start lidocaine patch and ultram
   hypercalcemia: likely bone resorption with supplemental calcium
   -stop supplemental calcium
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-22**] 02:32 AM 75 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition : ICU, planning to transfer today if hct stable after
   Total time spent: 35 minutes
   Patient is critically ill

2168-08-23 07:38:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - ID: No additional recommendations.  Continue Cefepime and Cipro.
   - ultram, lido patch for pain
   - RIJ US negative for clot. stopped anticoagulation
   - pRBCx1, HCT to 24.3
   - Plan to keep picc in place and [**Hospital1 25**] in am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2168-8-20**] 08:30 AM
   Ciprofloxacin - [**2168-8-21**] 10:27 PM
   Cefipime - [**2168-8-22**] 08:02 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-8-22**] 04:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2168-8-23**] 07:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 102 (72 - 102) bpm
   BP: 130/102(107) {103/40(59) - 155/102(109)} mmHg
   RR: 19 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,546 mL
                                                                    974 mL
   PO:
             TF:
                                                                  1,747 mL
                                                                    578 mL
   IVF:
                                                                    721 mL
                                                                     76 mL
   Blood products:
                                                                    268 mL
   Total out:
                                                                  1,740 mL
                                                                    650 mL
   Urine:
                                                                  1,740 mL
                                                                    650 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    324 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 652 (628 - 652) mL
   PS : 0 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 12.2 L/min
   Physical Examination
   GEN: NAD, trached, following simple commands
   NECK: + trach with copious white secretions
   Pulm: coarse breath sounds bilaterally, no wheezes, no crackles
   CV: RRR, nom/r/g, distant heart sounds
   Abd: obese, soft, NT, + G-tubed
   Ext: + pitting edema b/l
   Labs / Radiology
   367 K/uL
   7.5 g/dL
   166 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   29 mg/dL
   105 mEq/L
   134 mEq/L
   23.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
                             [**2168-8-22**]  03:02 AM
                             [**2168-8-22**]  04:26 PM
                             [**2168-8-23**]  04:48 AM
   WBC
   8.6
   8.3
   6.4
   6.7
   6.3
   6.9
   6.3
   Hct
   26.5
   25.6
   24.5
   23.2
   23.3
   21.2
   24.3
   23.0
   Plt
   384
   387
   388
   388
   371
   368
   367
   Cr
   1.0
   1.1
   1.1
   1.2
   1.0
   1.3
   1.1
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) **]17
   [**Telephone/Fax (2) 8242**]66
   Other labs: PT / PTT / INR:13.4/26.2/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:32/24, Alk Phos / T Bili:261/0.5, Amylase / Lipase:/31,
   Differential-Neuts:64.9 %, Lymph:25.2 %, Mono:5.0 %, Eos:4.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:11.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 7946**] is a 57 year old male with 2 months of AMS, fevers, who is
   s/p trached and peg after pneumonia and ARDS, here for fevers,
   respiratory failure transferred here for inability to wean from vent
   found to have VAP and persistent fevers of unclear etiology but
   possibly secondary to Osteomyelitis/myositis.
   # VAP.  Pt with fever, LLL infiltrate, and positive sputum culture.
   Now on vanco/cefepime/cipro to cover enterobacter and MRSA.
   - plan for 8 day course, although may have to extend to 14 days
   secondary to bacteremia.
   - continue vanco/cefepime/cipro for now, but can likely do vanco for 8
   days and cipro for 14 days
   - will recheck vanc level in a.m.
   - ID reccs double coverage for enterobacter but will clarify whether
   able to d/c cefepime or ciprofloxacin
   - f/u ID reccs
   # Bacteremia.  Pt with positive blood culture with GNRs, source at this
   time unknown, although could be from pneumonia or urine.
   - continue vanco/cipro/cefepime as above
   - continue with PICC line for now, if continued fevers need to consider
   removing
   - f/u blood cultures
   # FUO.  Curently felt most likely to be secondary to osteo and myositis
   which was detected on L-spin MRI.  However, there is minimal
   radiographic evidence and not enough bone involvement to biopsy.  Will
   pursue tagged RBC scan to decide if this needs to be treated or
   biopsied.  Additionally, ESR and CRP are persistently elevated and
   Glucan was greater than assay.
   - tagged wbc scan negative
   - will now need to treat current infxn as above and then reevaluate
   # Respiratory failure.  Patient had had difficulty weaning from vent
   due to cuff leak and TBM.  Awaiting y-stent placement for TBM after
   infectious workup is completed.  Also has OSA and ?obesity
   hypoventilation.  Increasing size of trach resulted in some improvement
   of respiratory status, but requires resting on PS during the nights.
   - awaiting tracheal stent placement following infectious workup to rule
   out active infection
   - plan on stent as outpatient, will have appt 1 month after discharge;
   should pg IP fellow on discharge to help set up appt
   - continue trach mask as tolerated during the days, resting on CPAP
   overnight, doing well with 10 peep o/n.
   #  Normocytic Anemia. HCT 21.3 this am and s/p transfusion of 1u PRBC
   overnight.  Has been guaiac negative.
   - follow Hct, transfuse <21
   - decrease heparin gtt rate for PTT goal of 60
   - fe c/w inflammatory blockade; will check  b12, folate, stool guaiacs.
   # Delerium.  Suspect AMS is related to delerium secondary to fevers and
   prolonged hospital stay. Improving.
   - haldol prn agitation though not requiring any
   - stop ativan and decrease Fentanyl patch
   - if not improving, consider head CT
   - initiate home celexa with plan to uptitrate to prior dose of 60 mg
   daily
   -seroquel 12.5mg qam and 25mg qpm for now.
   # MAT.  HRs overall improved to 90s-110s on max dose dilt and
   intermidiate dose metoprolol.  Likely related to respiratory status and
   to low grade fevers.
   - cont dilt 90 mg qid
 consider switching to long acting if patient
   remains stable
   - increase metoprolol as needed
   # Hypercalcemia:  Calcium level rising to 13 adjusted for albumin from
   normal baseline.
   - will hold calcium and vitamin D for now
   - will defer ionized calcium, vitamin D, PTH, TSH studies for now
   # DM.  FS elevated and tolerating tube feeds.
   - continue glargine and HISS and adjust as needed, uptitrated [**8-21**]
   - follow FS
   # Sciatica.  Patient has severe sciatic, states he has no pain today.
   -LS MRI suggests osteo, discitis, myositis as well.
   - restarted fentanyl patch as pt was having pain but at
 dose
   - start ultram, lidocaine patch
   # Line-associated thrombus.  Known to have RIJ thrombus.   Initiating
   heparin to coumadin bridging.
   - heparin drip
 coumadin briding
   - will clarify whether patient needs anticoagulation for this
   line-associated thrombus given line no longer present
   FULL CODE
   PPx: heparin drip , bowel regimen
   CODE: FULL
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-23**] 05:44 AM 75.[**Telephone/Fax (5) 8243**]
   mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2168-08-23 10:51:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   57M with prolonged hospitalizations, severe TBM, prior FUO now
   resolving VAP and bacteremia, should be going to rehab today.
   24 Hour Events:
   -cont abx; no evidence of line infection
   -ultram, lido patch started
   -RIJ US negative for clot. stopped anticoagulation
   -pRBCx1, HCT increased appropriately
                                History obtained from [**Hospital 19**] Medical records
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2168-8-21**] 10:27 PM
   Cefipime - [**2168-8-22**] 08:02 PM
   Infusions:
   Other ICU medications:
   Haloperidol (Haldol) - [**2168-8-22**] 04:35 PM
   Other medications:
   riss, prevacid, dilt, metopr, cipro, cefepime
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Chest pain
   Nutritional Support: NPO, Tube feeds
   Respiratory: No(t) Cough
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis
   Genitourinary: Foley
   Endocrine: No(t) Hyperglycemia
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2168-8-23**] 10:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 82 (72 - 102) bpm
   BP: 152/63(84) {103/51(67) - 155/102(109)} mmHg
   RR: 21 (13 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 134.4 kg (admission): 123 kg
   Height: 70 Inch
             Total In:
                                                                  3,546 mL
                                                                  1,432 mL
   PO:
             TF:
                                                                  1,747 mL
                                                                    805 mL
   IVF:
                                                                    721 mL
                                                                    106 mL
   Blood products:
                                                                    268 mL
   Total out:
                                                                  1,740 mL
                                                                    940 mL
   Urine:
                                                                  1,740 mL
                                                                    940 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,806 mL
                                                                    492 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP
   Vt (Spontaneous): 652 (628 - 652) mL
   PS : 0 cmH2O
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 52
   PIP: 12 cmH2O
   SpO2: 100%
   ABG: ///20/
   Ve: 9.5 L/min
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ), improved at left base
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.5 g/dL
   367 K/uL
   166 mg/dL
   1.1 mg/dL
   20 mEq/L
   4.0 mEq/L
   29 mg/dL
   105 mEq/L
   134 mEq/L
   23.0 %
   6.3 K/uL
        [image002.jpg]
                             [**2168-8-17**]  03:07 AM
                             [**2168-8-17**]  03:53 AM
                             [**2168-8-17**]  06:00 AM
                             [**2168-8-17**]  11:32 PM
                             [**2168-8-19**]  03:57 AM
                             [**2168-8-20**]  05:30 AM
                             [**2168-8-21**]  03:57 AM
                             [**2168-8-22**]  03:02 AM
                             [**2168-8-22**]  04:26 PM
                             [**2168-8-23**]  04:48 AM
   WBC
   8.6
   8.3
   6.4
   6.7
   6.3
   6.9
   6.3
   Hct
   26.5
   25.6
   24.5
   23.2
   23.3
   21.2
   24.3
   23.0
   Plt
   384
   387
   388
   388
   371
   368
   367
   Cr
   1.0
   1.1
   1.1
   1.2
   1.0
   1.3
   1.1
   TCO2
   21
   Glucose
   [**Telephone/Fax (3) **]17
   [**Telephone/Fax (2) 8242**]66
   Other labs: PT / PTT / INR:13.4/26.2/1.1, CK / CKMB / Troponin-T:27//,
   ALT / AST:32/24, Alk Phos / T Bili:261/0.5, Amylase / Lipase:/31,
   Differential-Neuts:64.9 %, Lymph:25.2 %, Mono:5.0 %, Eos:4.6 %, Lactic
   Acid:1.1 mmol/L, Albumin:2.7 g/dL, LDH:201 IU/L, Ca++:11.2 mg/dL,
   Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Microbiology: no new
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 PNEUMONIA, BACTERIAL, VENTILATOR ACQUIRED (VAP)
 OSTEOMYELITIS
 HYPERGLYCEMIA
 [**Last Name 9**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Right IJ Throbus
 HYPERNATREMIA (HIGH SODIUM)
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
 ATRIAL FIBRILLATION (AFIB)
 BACK PAIN
 IMPAIRED SKIN INTEGRITY
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RESPIRATORY FAILURE, CHRONIC
 TRACHEOBRONCHOMALACIA (TRACHEOMALACIA, BRONCHOMALACIA)
   57M with prolonged hospitalizations, severe TBM, prior FUO, now
   resolving VAP and bacteremia, should be going to rehab today.
   Short-term plan is to complete antibiotics. Long term plan is to
   continue rehab and to return to follow-up with IP for consideration of
   stent:
   vap, bacteremia
   -cont 14 day course of cefepime, cipro, vancomycin
   -no need to change PICC though favor removal of PICC once completes abx
   resp failure, severe tbm
   -continue cpap at night and tm when in chair
   -will tell IP re follow-up
   Delirium/depression
   -cont seroquel, celexa
   We will speak with the accepting physician for [**Name9 (PRE) 8245**]
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2168-8-23**] 05:44 AM 75.[**Telephone/Fax (5) 8243**]
   mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2168-8-6**] 03:38 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility if Bed
   Total time spent: 35 minutes